2159-08-09 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2159-8-8**] 07:46 PM
 INVASIVE VENTILATION - START [**2159-8-9**] 01:44 AM
 ARTERIAL LINE - START [**2159-8-9**] 02:13 AM
 BLOOD CULTURED - At [**2159-8-9**] 05:09 AM
 FEVER - 104.2
F - [**2159-8-9**] 01:00 AM
   - serial ABGs obtained, respiratory alkalosis with hyperventilation,
   PaO2 60, 76, 63. pt was intubated, with ARDS NET protocols.
   - pt spiked fever to 104.2, pan-cultured
   - pt was given 20mg IV lasix x1 in ED, 20mg lasix x2 on the floor
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-8-9**] 12:00 AM
   Vancomycin - [**2159-8-9**] 02:35 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2159-8-8**] 10:08 PM
   Morphine Sulfate - [**2159-8-8**] 11:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-9**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 37.8
C (100.1
   HR: 63 (63 - 80) bpm
   BP: 123/49(71) {120/49(71) - 151/69(94)} mmHg
   RR: 22 (22 - 42) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             672 mL
   PO:
             TF:
   IVF:
   672 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                  1,340 mL
   Urine:
                                                                  2,020 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,770 mL
                                                                   -668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 80%
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   SpO2: 93%
   ABG: 7.40/47/103/25/2
   Ve: 7.3 L/min
   PaO2 / FiO2: 129
   Physical Examination
   General: Alert, oriented, using accessory muscles intermittently,
   appears to be in mild respiratory distress
   HEENT: Sclera anicteric, dry mucous membranes
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: Bilateral crackles throughout all lung fields, no wheezes,
   scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Neuro: A&Ox3, CN's sym
   Labs / Radiology
   290 K/uL
   9.3 g/dL
   155 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.3 mEq/L
   12 mg/dL
   98 mEq/L
   135 mEq/L
   27.5 %
   16.0 K/uL
        [image002.jpg]
                             [**2159-8-8**]  02:15 PM
                             [**2159-8-8**]  02:54 PM
                             [**2159-8-8**]  08:20 PM
                             [**2159-8-8**]  11:24 PM
                             [**2159-8-9**]  01:13 AM
                             [**2159-8-9**]  02:35 AM
                             [**2159-8-9**]  04:08 AM
                             [**2159-8-9**]  04:19 AM
   WBC
   12.5
   16.0
   Hct
   29.7
   27.5
   Plt
   309
   290
   Cr
   1.0
   1.1
   TCO2
   28
   29
   30
   30
   29
   30
   Glucose
   104
   155
   Other labs: PT / PTT / INR:12.4/25.2/1.0, Differential-Neuts:85.6 %,
   Lymph:9.5 %, Mono:4.5 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.2
   g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Iron: 22
   calTIBC: 237
   Ferritn: 187
   TRF: 182
   Microbiology:
   [1][**2159-8-9**]
   SPUTUM
   GRAM STAIN-PENDING; RESPIRATORY CULTURE-PENDING; LEGIONELLA
   CULTURE-PENDING; FUNGAL CULTURE-PENDING
   INPATIENT
   [2][**2159-8-8**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-PENDING; Respiratory Viral Antigen
   Screen-PENDING
   INPATIENT
   [3][**2159-8-8**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2159-8-8**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2159-8-8**]
   Blood (CMV AB)
   CMV IgG ANTIBODY-PENDING; CMV IgM ANTIBODY-PENDING
   INPATIENT
   [6][**2159-8-8**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [7][**2159-8-8**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [8][**2159-8-8**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [9][**2159-8-8**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [10][**2159-8-8**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   .
   Images:
   CXR ([**8-8**]):
   IMPRESSION: Persistent bilateral alveolar opacities superimposed upon
   underlying interstitial abnormality.
   Although potentially due to pulmonary edema, the differential diagnosis
   is broad and includes widespread pneumonia (including PCP if patient is
   immune suppressed), pulmonary hemorrhage, and chronic processes such as
   alveolar proteinosis and bronchoalveolar cell carcinoma.
   Continued radiographic followup recommended. If the diagnosis remains
   in doubt clinically, high- resolution chest CT may be helpful. At that
   time, the mediastinum can also be reassessed to distinguish distended
   vessels from lymphadenopathy.
   .
   CXR ([**8-9**]): post-intubation. Bilateral alveolar opacities superimposed
   upon underlying interstitial abnormality, slightly worsened compared to
   the one from the day prior.
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who presents with subjective fevers, sore
   throat, and respiratory distress.
   .
   #) Respiratory distress: Pt is now s/p intubation. Differential for
   patient's respiratory distress at this time remains broad. She
   describes a prodrome lasting a few weeks, however relatively acute
   onset of shortness of breath today on day of presentation.
   Her chest x-ray is not completely consistent with a picture of just
   CHF, and she did not respond to lasix as expected if this was the whole
   story. Her fevers are more suggestive of an infectious process; given
   her chest x-ray an atypical process such as legionella or mycoplasma
   would be higher on the differential. Viral process (such as varicella,
   CMV) would also be possibilties. She has no known risk factors for
   PCP.  [**Name10 (NameIs) **] considerations would be rheumatologic processes
   (vasculitis, pulmonary-renal syndromes, however renal function is WNL),
   institial lung diseases such as UIP/AIP/DIP, hypersensitivity
   pneumonitis, bronchoalveolar carcinoma. No hemoptysis to suggest DAH,
   and suctions from ETT showed no rustic blood color.  Patient meets the
   criteria for ARDS as it is acute, no evidence of CHF, PaO2/FiO2 <200
   and pt has bilateral infiltrates on CXR. In terms of the precipitate of
   ARDS, could be aspiration pneumonitis, viral or atypical pneumonia, or
   inhalation in the environment. No evidence of pancreatitis, sepsis, no
   h/o transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - pt is s/p intubation. compliance low, around 20. Use ARDS NET
   protocol for ventilation as pt is possilby ARDS.
   - f/u Sputum culture, Legionella urinary antigen, viral culture
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], ANCA, CMV IgM/IgG
   - Continue vancomycin, levofloxacin (patient with allergy to PCN,
   details unknown, tolerated CTX in ED)
   - non-contrast chest CT to further detail lung process; may also
   consider bronchoscopy if above are unrevealing
   - Checking urine analysis to eval for vasculitic process
   - no further diuresis as pt appears to dry on exam
   .
   #) Fevers: Suspect infectious process, most likely from lung as
   discussed above.
   - Sputum, blood, urine cultures
   .
   #) Anemia: Unknown baseline HCT, differential broad and includes anemia
   of chronic disease, iron deficiency, etc. No hemoptysis to suggest DAH,
   however this is still a possibility.
   - Guaiac stools
   - iron studies are consistent with anemia of chronic disease or anemia
   of inflammation, B12 and folate normal
   - Transfusion threshold <21 or evidence of active bleeding
   - Try to obtain further data from PCP (if she has seen one since
   [**5-/2158**], given it would have to be out of our system)
   .
   #) Hyponatremia: Differential is hypovolemic versus SIADH (likely from
   lung process).
   - Urine lytes, Osm, serum Osm
   - Follow trend
   ICU Care
   Nutrition: NPO
   Glycemic Control: Insulin sliding scale if needed
   Lines:
   22 Gauge - [**2159-8-9**] 01:31 AM
   20 Gauge - [**2159-8-9**] 01:56 AM
   Arterial Line - [**2159-8-9**] 02:13 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: No indication
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_48%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_49%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_50%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_51%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_52%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_53%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_54%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_55%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_56%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_57%22,640,400,50,50,1);

2159-08-10 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2159-8-9**] 10:04 AM
 MULTI LUMEN - START [**2159-8-9**] 12:36 PM
 FEVER - 102.1
F - [**2159-8-10**] 12:00 AM
   - bronch today -> BAL showed Polys: 94 Lymphs: 2,
   GRAM STAIN: 3+  POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN.
   - OG tube placed, started TF
   - CVL placed, then pulled back 5 cm
   - PM lytes: K nl after repletion, Cr up to 1.7
   - low BPs -> received 1500cc bolus, ?started Levophed?
   - PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 1788**] came by- no recs
   - resp cx neg for Adeno, Parainfluenza, Influenza and RSV
   - [**Doctor First Name **] positive (titer pending), ANCA neg
   - after bronch, PEEP 12 and FiO2 80% -> weaned to 70% -> ABG looked ok
   but pt was on volume control mode, but tidal volumes were varying and
   pt was breathing faster (extra small breaths) than settings ->
   maximized sedation and left it at that.
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-8-9**] 12:00 AM
   Vancomycin - [**2159-8-9**] 09:00 AM
   Infusions:
   Fentanyl - 400 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-9**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-10**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-10**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.6
C (101.4
   HR: 82 (65 - 82) bpm
   BP: 112/50(69) {90/41(57) - 135/58(83)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  4,554 mL
                                                                    628 mL
   PO:
   TF:
                                                                    106 mL
                                                                    141 mL
   IVF:
                                                                  4,448 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    185 mL
   Urine:
                                                                  1,760 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,794 mL
                                                                    443 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.27/55/132/24/-2
   Ve: 6.8 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General: intubated, sedated, not following commands
   HEENT: Sclera anicteric, dry mucous membranes
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: Bilateral crackles throughout all lung fields, no wheezes,
   scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Labs / Radiology
   271 K/uL
   8.3 g/dL
   120 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   24 mg/dL
   105 mEq/L
   138 mEq/L
   25.5 %
   16.8 K/uL
        [image002.jpg]
                             [**2159-8-9**]  04:08 AM
                             [**2159-8-9**]  04:19 AM
                             [**2159-8-9**]  06:25 AM
                             [**2159-8-9**]  09:35 AM
                             [**2159-8-9**]  05:02 PM
                             [**2159-8-9**]  05:57 PM
                             [**2159-8-9**]  08:46 PM
                             [**2159-8-10**]  01:30 AM
                             [**2159-8-10**]  04:25 AM
                             [**2159-8-10**]  04:33 AM
   WBC
   16.0
   16.8
   Hct
   27.5
   25.9
   25.5
   Plt
   290
   271
   Cr
   1.1
   1.7
   2.3
   TCO2
   30
   30
   31
   27
   26
   26
   26
   Glucose
   155
   111
   120
   Other labs:
   PT / PTT / INR:15.7/30.4/1.4,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   BRONCHIAL LAVAGE
   Other Body Fluid Hematology:
   Polys: 94
   Lymphs: 2
   Monos: 0
   Eos: 1
   Macro: 3
   Micro:
*****[**2159-8-9**] 10:13 am BRONCHOALVEOLAR LAVAGE      RT MIDDLE LOBE.
   GRAM STAIN (Final [**2159-8-9**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   LEGIONELLA CULTURE (Preliminary):
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2159-8-9**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   ACID FAST SMEAR (Preliminary):
   ACID FAST CULTURE (Preliminary):
*****[**2159-8-9**] 10:13 am Rapid Respiratory Viral Screen & Culture
      RT MIDDLE LOBE.
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2159-8-9**]):
      Respiratory viral antigen test is uninterpretable due to the lack of
      cells.
      Refer to respiratory viral culture for further information.
      REPORTED BY PHONE TO DR.[**Last Name (STitle) 921**] ON [**2159-8-9**] AT 14:45.
   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
*****[**2159-8-8**] 2:41 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab 9.
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2159-8-9**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
      and RSV by immunofluorescence.
      Refer to respiratory viral culture for further information.
   VARICELLA-ZOSTER CULTURE (Preliminary):
   *****Others:
   Blood culture from [**Date range (1) 10087**] pending
   CMV IgG+. IgM neg
   Urine legionella neg
   Images:
   CXR (my read): persistent bilateral infiltrate
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who presents with subjective fevers, sore
   throat, and respiratory distress.
   .
   #) ARDS: Pt is now s/p intubation and bronchoscopy. Differential for
   patient's respiratory distress at this time remains broad. She
   describes a prodrome lasting a few weeks, however relatively acute
   onset of shortness of breath today on day of presentation.
   Her chest x-ray is not completely consistent with a picture of just
   CHF, and she did not respond to lasix as expected if this was the whole
   story. Her fevers are more suggestive of an infectious process; given
   her chest x-ray an atypical process such as legionella or mycoplasma
   would be higher on the differential. Viral process (such as varicella,
   CMV) would also be possibilties. She has no known risk factors for
   PCP.  [**Name10 (NameIs) **] considerations would be rheumatologic processes
   (vasculitis, pulmonary-renal syndromes, however renal function is WNL),
   institial lung diseases such as UIP/AIP/DIP, hypersensitivity
   pneumonitis, bronchoalveolar carcinoma. No hemoptysis to suggest DAH,
   and suctions from ETT and bronchoscopy showed no rustic blood color or
   alveolar bleeding.  Patient meets the criteria for ARDS as it is acute,
   no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral infiltrates on
   CXR. In terms of the precipitate of ARDS, could be aspiration
   pneumonitis, viral or atypical pneumonia, or inhalation in the
   environment. No evidence of pancreatitis, sepsis, no h/o transfusion,
   trauma, drown, or burn. No h/o drug overdose either.
   - continue ARDS NET protocol for ventilation, Vt 350 and Pplateau
   25-30.
   - f/u Sputum and BAL culture culture and other cultures
   - Continue vancomycin, levofloxacin for now
   - check vanc trough tomorrow morning
   - non-contrast chest CT to further detail lung process
   - repeat urine analysis to eval for vasculitic process as pt has
   respiratory failure, renal failure, anemia and positive [**Doctor First Name **].
   - f/u TTE to eval cardiac function
   - no further diuresis as pt appears to dry on exam
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - check LFT, c. diff to rule out GI source for sepsis
   - continue Continue vancomycin, levofloxacin
   - continue to follow cultures
   - TTE to check for valvular vegetations
   . .
   #) Acute renal failure: Cr went down from 1.1 to 2.3 from yesterday to
   today. In the setting of ARDS with bilateral infiltrate, question
   patient has pulmonary
renal syndrome/vasculitis. Anemia is supportive
   of this possible diagnosis. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive.
   - get UA, urine lytes
   - renal US to rule out hydronephrosis or other renal pathologies
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] titer
   - order anti-GBM
   - renal consult today, f/u recs
   .
   #) Anemia: baseline hct around 35, differential broad and includes
   anemia of chronic disease, iron deficiency, etc. iron studies are
   consistent with anemia of chronic disease or anemia of inflammation,
   B12 and folate normal. No hemoptysis to suggest DAH, however this is
   still a possibility.
   - Guaiac stools
   - Transfusion threshold <21 or evidence of active bleeding
   - continue workup for vasculitis as above
   .
   #) Hyponatremia: resolved. Differential is hypovolemic versus SIADH
   (likely from lung process).
   - Follow trend
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-10**] 05:00 AM 20 mL/hour
   Glycemic Control:  ISS if needed
   Lines:
   22 Gauge - [**2159-8-9**] 01:31 AM
   20 Gauge - [**2159-8-9**] 01:56 AM
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-9**] 12:36 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-10 11:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   ARDS
   Sepsis
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2159-8-9**] 10:04 AM
 MULTI LUMEN - START [**2159-8-9**] 12:36 PM
 FEVER - 102.1
F - [**2159-8-10**] 12:00 AM
   BAL--94% PNM's, 1 EOSINOPHIL
   Levophed started for persistent hypotension
   PEEP titrated to 12 adn FIO2 remained at 0.7
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-8-9**] 12:00 AM
   Vancomycin - [**2159-8-10**] 08:49 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-8-10**] 05:49 AM
   Pantoprazole (Protonix) - [**2159-8-10**] 08:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2159-8-10**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.1
C (100.6
   HR: 82 (65 - 85) bpm
   BP: 99/44(61) {90/41(57) - 122/50(71)} mmHg
   RR: 19 (11 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 11 (3 - 12)mmHg
   Total In:
                                                                  4,554 mL
                                                                  1,240 mL
   PO:
   TF:
                                                                    106 mL
                                                                    251 mL
   IVF:
                                                                  4,448 mL
                                                                    989 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    300 mL
   Urine:
                                                                  1,760 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,794 mL
                                                                    940 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.27/55/132/24/-2
   Ve: 7.9 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   271 K/uL
   120 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   24 mg/dL
   105 mEq/L
   138 mEq/L
   25.5 %
   16.8 K/uL
        [image002.jpg]
                             [**2159-8-9**]  04:08 AM
                             [**2159-8-9**]  04:19 AM
                             [**2159-8-9**]  06:25 AM
                             [**2159-8-9**]  09:35 AM
                             [**2159-8-9**]  05:02 PM
                             [**2159-8-9**]  05:57 PM
                             [**2159-8-9**]  08:46 PM
                             [**2159-8-10**]  01:30 AM
                             [**2159-8-10**]  04:25 AM
                             [**2159-8-10**]  04:33 AM
   WBC
   16.0
   16.8
   Hct
   27.5
   25.9
   25.5
   Plt
   290
   271
   Cr
   1.1
   1.7
   2.3
   TCO2
   30
   30
   31
   27
   26
   26
   26
   Glucose
   155
   111
   120
   Other labs: PT / PTT / INR:15.7/30.4/1.4, Differential-Neuts:85.6 %,
   Lymph:9.5 %, Mono:4.5 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR-
   ETT and CVL in good position
   Persistent of diffuse bilateral infiltrates
   Microbiology: BAL--
   PCP-[**Name10 (NameIs) **]
   [**Name11 (NameIs) 10090**]
   Urine Legionella-Negative
   CMV-IgM negative
   Other cultures pending
   Assessment and Plan
   70 yo with admission with hypoxemic respiratory failure and ARDS with
   initial insult remaining to be defined but do have viral, aspiration or
   environmental/inhalational trigger perhaps most likely.  We had been
   impressed with high fevers driving concern for infectious source to the
   forefront.  In addition, we now have pressor requiring hypotension and
   acute renal failure evolving.
   1)Respiratory Failure-ARDS-
   -Will continue with lung protective ventilation strategy and have had
   good capacity to wean FIO2 at current PEEP levels
   -Will continue with volume cycled ventilation
   -ABG as needed
   -Can move to PCV mode if patient syncrhony becomes an issue
   In regards to treatment of source-
   -Will continue broad spectrum antibiotics
   -Will pursue CT scan for better definition of infiltrates and review
   with chest radiologists
   -No role for biopsy at this time given risk but will have to look to
   chest CT to aid in management approach
   2)Hypotension
Likely vasodilatory source of compromise as CVP adequate
   and is likely SIRS process
   -ECHO today and CvO2 to confirm high output state
   -Will continue to Rx with current ABX and monitor for new evidence of
   infection
   -Levophed as needed
   -Will pursue LFT
s, T. Bili, etc.
   3)Acute Renal Failure-Concerning for ATN in this setting and with
   sudden rise.
   -Will check urine lytes
   -Will check renal ultrasound
   -Will need review of urine for possible impact in regards to
   glomerulonephritis which was not seen at presentation.
   -Renal consult to consider vasculitis, review urine
   -Will add on Anti-GBM
   Additional issues to be addressed as defined in the housestaff note of
   this date
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-10**] 05:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-8-9**] 01:31 AM
   20 Gauge - [**2159-8-9**] 01:56 AM
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-9**] 12:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2159-08-11 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Resp failure
   ARDS
   ARF
   24 Hour Events:
 ULTRASOUND - At [**2159-8-10**] 11:30 AM
   renal u/s
 TRANSTHORACIC ECHO - At [**2159-8-10**] 04:04 PM
 EF 50%
 FEVER - 102.9
F - [**2159-8-10**] 08:00 AM
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2159-8-10**] 08:49 AM
   Levofloxacin - [**2159-8-11**] 01:21 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-10**] 08:50 AM
   Midazolam (Versed) - [**2159-8-11**] 03:35 AM
   Fentanyl - [**2159-8-11**] 03:35 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-11**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.9
C (98.4
   HR: 65 (65 - 88) bpm
   BP: 94/42(58) {94/42(58) - 119/52(72)} mmHg
   RR: 27 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 7 (7 - 16)mmHg
   Mixed Venous O2% Sat: 75 - 75
                                Total In:
                                                                  2,502 mL
                                                                    809 mL
   PO:
                                TF:
                                                                    651 mL
                                                                    190 mL
   IVF:
                                                                  1,792 mL
                                                                    619 mL
   Blood products:
   Total out:
                                                                    394 mL
                                                                    182 mL
   Urine:
                                                                    394 mL
                                                                    182 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,108 mL
                                                                    627 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV   18/12
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 208 (208 - 410) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.25/49/105//-5
   Ve: 12.2 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Intubated, sedated, unresponsive
   Hrt rrr
   Lungs crackles
   Abd benign
   Extrem no edema
   Labs / Radiology
   8.3 g/dL
   241 K/uL
                                     107
                                     /dL
   3.9 mg/dL
   20 mEq/L
   4.3 mEq/L
   44 mg/dL
   101 mEq/L
   136 mEq/L
   25.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2159-8-9**]  05:57 PM
                             [**2159-8-9**]  08:46 PM
                             [**2159-8-10**]  01:30 AM
                             [**2159-8-10**]  04:25 AM
                             [**2159-8-10**]  04:33 AM
                             [**2159-8-10**]  12:30 PM
                             [**2159-8-10**]  07:20 PM
                             [**2159-8-10**]  09:07 PM
                             [**2159-8-11**]  06:21 AM
                             [**2159-8-11**]  06:34 AM
   WBC
   16.8
   13.9
   Hct
   25.5
   25.0
   Plt
   271
   241
   Cr
   2.3
   TCO2
   27
   26
   26
   26
   24
   26
   24
   23
   Glucose
   120
   Other labs: PT / PTT / INR:14.5/30.6/1.3, ALT / AST:16/34, Alk Phos / T
   Bili:97/0.5, Amylase / Lipase:18/9, Differential-Neuts:85.6 %,
   Lymph:9.5 %, Mono:4.5 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:605 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Chest CT widespread ground galss and consolidative infiltrates, small
   effusions
   CXR stable bilat infiltrates
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS) / pna / resp failure
   cont braod abx and vent support, micro data unremarkable
 HYPOTENSION
 improved, follow
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 due to ATN,
   hypotension, discuss CVVH with renal
   Anemia
 stable, follow
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-10**] 10:29 PM 35 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-8-9**] 01:31 AM
   20 Gauge - [**2159-8-9**] 01:56 AM
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-9**] 12:36 PM
   Prophylaxis:
   DVT:   sc hep
   Stress ulcer:    ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   icu
   Total time spent: 39 min

2159-08-13 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started aztreonam
   - vanc trough is 21 this AM, will check again in AM
   - Renal recs: can give bicarb (gave 2 amps), no HD today but will
   likely need it in the next couple of days
   - received 1U pRBCs
   - PM Hct/lytes -> Hct went up 21 to 24, Cr rose to 5.0
   - spiked a fever to 103.7 with dissynchronous breathing -> sent blood
   cultures, urine culture, stat CXR showed no change, gave tylenol, FiO2
   up to 100%
   - ABG in AM was worse pH 7.26 pCO2 46 pO2 77 HCO3 22, gave 1 amp of
   bicarb, changed vent settings from AC to pressure control -> repeat ABG
   was
   - per nursing, blood glucose in 150-200 range consistently, added
   glargine 5U qhs + ISS
   - started Levophed for MAPs in low 50s
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2159-8-10**] 08:49 AM
   Levofloxacin - [**2159-8-13**] 01:45 AM
   Aztreonam - [**2159-8-13**] 03:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2159-8-12**] 07:53 PM
   Fentanyl - [**2159-8-12**] 07:53 PM
   Heparin Sodium (Prophylaxis) - [**2159-8-12**] 10:07 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2159-8-13**] 06:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-13**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 38.3
C (100.9
   HR: 77 (62 - 88) bpm
   BP: 130/53(76) {85/38(54) - 151/67(91)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 16 (14 - 26)mmHg
   Total In:
                                                                  2,902 mL
                                                                  1,255 mL
   PO:
   TF:
                                                                    840 mL
                                                                    252 mL
   IVF:
                                                                  1,651 mL
                                                                    903 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    488 mL
                                                                    107 mL
   Urine:
                                                                    488 mL
                                                                    107 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,414 mL
                                                                  1,148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.28/47/86/18/-4
   Ve: 11.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General: intubated, sedated, not following commands
   HEENT: Sclera anicteric, dry mucous membranes
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: Bilateral crackles throughout all lung fields, no wheezes,
   scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Neuro: pt some muscle twitches when hand elevated.
   Labs / Radiology
   233 K/uL
   7.9 g/dL
   205 mg/dL
   5.3 mg/dL
   18 mEq/L
   4.2 mEq/L
   82 mg/dL
   102 mEq/L
   137 mEq/L
   24.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2159-8-11**]  04:26 PM
                             [**2159-8-12**]  04:47 AM
                             [**2159-8-12**]  05:00 AM
                             [**2159-8-12**]  04:50 PM
                             [**2159-8-12**]  05:18 PM
                             [**2159-8-12**]  07:48 PM
                             [**2159-8-13**]  12:29 AM
                             [**2159-8-13**]  03:18 AM
                             [**2159-8-13**]  03:28 AM
                             [**2159-8-13**]  05:27 AM
   WBC
   9.0
   8.8
   10.5
   Hct
   21.5
   24.0
   24.4
   Plt
   259
   237
   233
   Cr
   4.7
   5.0
   5.3
   TCO2
   23
   22
   21
   23
   21
   22
   23
   Glucose
   112
   195
   144
   205
   Other labs:
   PT / PTT / INR:14.4/29.5/1.2,
   ALT / AST:16/34, Alk Phos / T Bili:97/0.5, Amylase / Lipase:18/9,
   Differential-Neuts:84.5 %, Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %,
   Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:605 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   UA [**8-12**]:
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.010
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Sm
   Bld
   Sm
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   9
   WBC
   9
   Bact
   Few
   Yeast
   None
   Epi
   0
   Other Urine Counts
   CastGr: 4
   CastHy: 3
   Mucous: Rare
   Micro:
   Blood culture from [**2070-8-7**]: NGTD
   BAL from [**8-9**]: no bacteria, no AFB, no legionella, no PCP. [**Name10 (NameIs) 10137**]
   and chlamydia pending
   CMV IgG+, IgM-
   Nasopharyngeal swab or BAL: no respiratory viral antigen, no VZV or CMV
   Sputum from [**8-9**]: sparse growth of yeast
   Urine culture from [**Date range (1) 10162**]: pending
   Imaging:
   CXR (my read): persistent bilateral infiltrate
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who presents with subjective fevers, sore
   throat, and respiratory distress.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad. She describes a prodrome lasting a few weeks,
   however relatively acute onset of shortness of breath today on day of
   presentation. Her chest x-ray is not completely consistent with a
   picture of just CHF, and she did not respond to lasix as expected if
   this was the whole story. Her fevers are more suggestive of an
   infectious process; given her chest x-ray an atypical process such as
   legionella or [**Known lastname **] would be higher on the differential. Viral
   process (such as varicella, CMV) would also be possibilties. She has no
   known risk factors for PCP.  [**Name10 (NameIs) **] considerations would be
   rheumatologic processes (vasculitis, pulmonary-renal syndromes, however
   renal function is WNL), institial lung diseases such as UIP/AIP/DIP,
   hypersensitivity pneumonitis, bronchoalveolar carcinoma. No hemoptysis
   to suggest DAH, and suctions from ETT and bronchoscopy showed no rustic
   blood color or alveolar bleeding.  Patient meets the criteria for ARDS
   as it is acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR. In terms of the precipitate of ARDS, could be
   aspiration pneumonitis, viral or atypical pneumonia, or inhalation in
   the environment. No evidence of pancreatitis, sepsis, no h/o
   transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - currently on PC, 18/12, FiO2 50%, continue this setting for now  as
   O2 sats are 92-93 on this setting, wouldn
t decrease FiO2 or PEE yet
   - Continue vancomycin, levofloxacin, add aztreonam for broader coverage
   - hold vanc for today as vanc trough 21.6 today
   - follow all cultures
   - if this is severe viral pneumonia leading to ARDS (which is possible
   despite negative viral cultures), need to be patient, and patient might
   turn the corner later
   - lung bx would be the last option when everything fails, not at this
   point yet
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - check c. diff to rule out GI source
   - continue Continue vancomycin, levofloxacin
   - continue to follow all cultures
   - monitor lactate
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Acute renal failure: Cr continues to trend up.  FeNa 0.36, Urine Na
   18, consistent with pre-renal etiology. Per renal, pt has muddy brown
   casts, most likely ATN in the setting of hypotension. In the setting of
   ARDS with bilateral infiltrate, question patient has pulmonary
renal
   syndrome/vasculitis. Anemia is supportive of this possible diagnosis.
   [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive.
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - per renal, expect renal function to worsen for several days.
   - consider starting RRT today
   - f/u renal recs
   .
   #) Anemia: Hct 21.5 today. baseline hct around 35, differential broad
   and includes anemia of chronic disease, iron deficiency, etc. iron
   studies are consistent with anemia of chronic disease or anemia of
   inflammation, B12 and folate normal. No hemoptysis to suggest DAH,
   however this is still a possibility.
   - Guaiac stools
   - give 1u pRBC and check pm Hct
   - Transfusion threshold <21 or evidence of active bleeding
   .
   #) Hyponatremia: resolved. Differential is hypovolemic versus SIADH
   (likely from lung process).
   - Follow trend
   .
   # Mental Status: currently sedated. Had some hand shakiness and muscle
   twitches when hands were lifted up. Possibly secondary to uremia and
   metabolic acidosis
   - continue to follow, this is the least of her problems at this point
   - can re-assess neuro status when pt is less sedated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-12**] 10:16 PM 35 mL/hour
   Glycemic Control:  Glargine 5U +ISS
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-9**] 12:36 PM
   22 Gauge - [**2159-8-12**] 08:59 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-13 10:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2159-8-12**] 08:59 PM
 FEVER - 103.7
F - [**2159-8-12**] 08:00 PM
   -ABX expanded to include Aztreonam in the setting of persistent fevers
   -Renal consulted in the setting of worsening renal failure
   -Patient has persistent respiratory failure with continued
   ventilator-dys-synchony and need for pressure control ventilation.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-8-13**] 01:45 AM
   Aztreonam - [**2159-8-13**] 03:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2159-8-12**] 07:53 PM
   Fentanyl - [**2159-8-12**] 07:53 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2159-8-13**] 06:24 AM
   Pantoprazole (Protonix) - [**2159-8-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-8-13**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 37.6
C (99.6
   HR: 68 (66 - 88) bpm
   BP: 89/39(54) {85/38(54) - 151/67(91)} mmHg
   RR: 20 (12 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 18 (14 - 26)mmHg
   Total In:
                                                                  2,902 mL
                                                                  1,503 mL
   PO:
   TF:
                                                                    840 mL
                                                                    354 mL
   IVF:
                                                                  1,652 mL
                                                                  1,003 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    488 mL
                                                                    242 mL
   Urine:
                                                                    488 mL
                                                                    182 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  2,414 mL
                                                                  1,261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.28/49/107/18/-3
   Ve: 11.3 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   233 K/uL
   205 mg/dL
   5.3 mg/dL
   18 mEq/L
   4.2 mEq/L
   82 mg/dL
   102 mEq/L
   137 mEq/L
   24.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2159-8-12**]  04:47 AM
                             [**2159-8-12**]  05:00 AM
                             [**2159-8-12**]  04:50 PM
                             [**2159-8-12**]  05:18 PM
                             [**2159-8-12**]  07:48 PM
                             [**2159-8-13**]  12:29 AM
                             [**2159-8-13**]  03:18 AM
                             [**2159-8-13**]  03:28 AM
                             [**2159-8-13**]  05:27 AM
                             [**2159-8-13**]  09:40 AM
   WBC
   9.0
   8.8
   10.5
   Hct
   21.5
   24.0
   24.4
   Plt
   259
   237
   233
   Cr
   4.7
   5.0
   5.3
   TCO2
   22
   21
   23
   21
   22
   23
   24
   Glucose
   112
   195
   144
   205
   Other labs: PT / PTT / INR:14.4/29.5/1.2, ALT / AST:16/34, Alk Phos / T
   Bili:97/0.5, Amylase / Lipase:18/9, Differential-Neuts:84.5 %,
   Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.7 g/dL, LDH:605 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.0
   mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **]--+ 1:80
   ANCA-[**Doctor First Name **]
   Anti-GBM--Pending
   Imaging: CXR--ETT, Right IJ in good position, mild improvement in
   bilateral opacities compared with previous day but with substantial
   persistence.
   Microbiology: -_BC x2--all negative
   BAL--[**8-9**]--no bacteria
   PCP-[**Name10 (NameIs) **]
   Legionella [**Name10 (NameIs) **]
   -Direct Viral and Viral Culture--negative
   -Urine Culture-Negative
   Assessment and Plan
   70 yo female with initial admission with hypoxemic respiratory failure
   and now with persistent elevations in fever, worsening hypotension and
   now with pressor support required across past 24 hours.  The source for
   this remains to be defined--we have seen some significant worsening
   despite ongoing antibiotic support and support of blood pressure with
   volume and with pressors at this time.
   1)Respiratory Failure-Patient with persistent hypoxemic respiratory
   failure.  This has been despite broad spectrum antibiotic coverage and
   extensive testing to date.  This is quite atypical for viral infection
   given course and severity.  This may well represent persistent ARDS
   with initial insult yet to be defined.
   -Vanco/Levo/Aztreonam
   -Reaonable to consult ID in the setting of persistent fevers and broad
   spectrum empiric antibiotics
   -Will continue to support with PCV this morning
no need for alteration
   in mode of support at this time.
   -Did discuss possible role for steroid Rx but with such persistent and
   elevated pressures and need for pressor support is most likely
   infectious insult
   2)Sepsis-Persistent fevers seen, continued hypotension noted with CVP
   markedly elevated.
   -Will continue with Vanco/Levo/Aztreonam
   -Will check urine/blood/sputum cultures
   -Will re-check LFT
s and consider abdominal imaging
   -Levophed restarted, will work to keep fluid balance as close to even
   as possible
   3)Renal Failure-Clearly most consistent with ATN given findings on U/A
   and sepsis and without obstruction on Renal Ultrasound.
   -Patient with worsening renal function in the setting of Sepsis and
   ARDS
   -Renal consult in place
   -Will have to consider dialysis with worsening of electrolye or volume
   status
   -Will need to utilize HCO3 as needed
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-12**] 10:16 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-9**] 12:36 PM
   22 Gauge - [**2159-8-12**] 08:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Daughter updated in full during extended
   conversation at rounds with current issues of worsening sepsis and
   continued respiratory failure leave patient with persistent and severe
   hypoxemic failure
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes

2159-08-14 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2159-8-14**] 12:51 AM
   - continue on levophed
   - spoke to thoracic [**Doctor First Name 213**]: regarding lung biopsy, came by, did not leave
   a note.  Resident speaking to their attending.  Likely biopsy on
   Tuesday.  NPO at midnight.
   - ID recs: switch to [**Last Name (un) 614**] and azithro (stop vanc and aztreonam and
   levaquin).  Consider tick borne illness: lyme, babesia, anaplasma.
   Send for resp viral DFA.  Enterovirus/adenovirus PCR.  Aspergillous
   likely contaminant.
   - stool cx f/u: pending
   - f/u LFTs: ALT: 35, AST: 56, AP: 197, LDH: 534, t bili: 0.4, albumin:
   2.4, amylase: 19, lipase: 19
   - f/u lactate: 1.2
   - ABG: 7.27/48/124 (compared to 7.28/49/107)
   - renal recs: suspect pt may need HD today or tomorrow.  Keep SBPs
   above 100 if possible to optimize renal perfusion.  If need to hydrate,
   give D5 with 150 HCO3 as pt remains acidemic
   - spoke to IR: planned temp dialysis line tomorrow
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-8-13**] 01:45 AM
   Aztreonam - [**2159-8-13**] 09:20 PM
   Azithromycin - [**2159-8-14**] 12:00 AM
   Meropenem - [**2159-8-14**] 12:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-13**] 08:00 AM
   Midazolam (Versed) - [**2159-8-13**] 01:56 PM
   Fentanyl - [**2159-8-13**] 01:56 PM
   Heparin Sodium (Prophylaxis) - [**2159-8-13**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-14**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 79 (68 - 87) bpm
   BP: 107/38(58) {89/36(53) - 130/48(71)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.8 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 5 (5 - 24)mmHg
   Total In:
                                                                  2,787 mL
                                                                    562 mL
   PO:
   TF:
                                                                    736 mL
   IVF:
                                                                  1,907 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                    817 mL
                                                                    415 mL
   Urine:
                                                                    637 mL
                                                                    415 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  1,970 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 97%
   ABG: 7.32/46/102/22/-2
   Ve: 11.6 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General: intubated, sedated, not following commands
   HEENT: Sclera anicteric, dry mucous membranes
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: Bilateral crackles throughout all lung fields, no wheezes,
   scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Neuro: pt some muscle twitches when hand elevated.
   Labs / Radiology
   228 K/uL
   7.3 g/dL
   99 mg/dL
   4.9 mg/dL
   22 mEq/L
   4.4 mEq/L
   88 mg/dL
   106 mEq/L
   142 mEq/L
   22.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2159-8-12**]  05:18 PM
                             [**2159-8-12**]  07:48 PM
                             [**2159-8-13**]  12:29 AM
                             [**2159-8-13**]  03:18 AM
                             [**2159-8-13**]  03:28 AM
                             [**2159-8-13**]  05:27 AM
                             [**2159-8-13**]  09:40 AM
                             [**2159-8-13**]  04:09 PM
                             [**2159-8-14**]  03:39 AM
                             [**2159-8-14**]  03:59 AM
   WBC
   8.8
   10.5
   7.2
   Hct
   24.0
   24.4
   23
   22.3
   Plt
   237
   233
   228
   Cr
   5.0
   5.3
   4.9
   TCO2
   23
   21
   22
   23
   24
   23
   25
   Glucose
   195
   144
   205
   99
   Other labs:
   PT / PTT / INR:14.5/33.1/1.3,
   ALT / AST:35/56, Alk Phos / T Bili:197/0.4, Amylase / Lipase:19/19,
   Differential-Neuts:84.5 %, Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:534 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:5.1 mg/dL
   Micro:
   Blood culture from [**2070-8-7**]: NGTD
   BAL from [**8-9**]: no bacteria, no AFB, no legionella, no PCP. [**Name10 (NameIs) 10137**]
   and chlamydia pending
   CMV IgG+, IgM-
   Nasopharyngeal swab or BAL: no respiratory viral antigen, no VZV or CMV
   Sputum from [**8-9**]: sparse growth of yeast
   Urine culture from [**Date range (1) 10162**]: pending
   Imaging:
   CXR (my read): persistent bilateral infiltrate
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who presents with subjective fevers, sore
   throat, and respiratory distress.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad. She describes a prodrome lasting a few weeks,
   however relatively acute onset of shortness of breath today on day of
   presentation. Her chest x-ray is not completely consistent with a
   picture of just CHF, and she did not respond to lasix as expected if
   this was the whole story. Her fevers are more suggestive of an
   infectious process; given her chest x-ray an atypical process such as
   legionella or [**Known lastname **] would be higher on the differential. Viral
   process (such as varicella, CMV) would also be possibilties. She has no
   known risk factors for PCP.  [**Name10 (NameIs) **] considerations would be
   rheumatologic processes (vasculitis, pulmonary-renal syndromes, however
   renal function is WNL), institial lung diseases such as UIP/AIP/DIP,
   hypersensitivity pneumonitis, bronchoalveolar carcinoma. No hemoptysis
   to suggest DAH, and suctions from ETT and bronchoscopy showed no rustic
   blood color or alveolar bleeding.  Patient meets the criteria for ARDS
   as it is acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR. In terms of the precipitate of ARDS, could be
   aspiration pneumonitis, viral or atypical pneumonia, or inhalation in
   the environment. No evidence of pancreatitis, sepsis, no h/o
   transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - currently on PC, 30/12, FiO2 50%, continue this setting for now  as
   O2 sats are 92-93 on this setting, wouldn
t decrease FiO2 or PEE yet
   - Continue vancomycin, levofloxacin, and aztreonam
   - ID c/s as pt is still spiking fevers with no known source
   - f/u Vanc trough today and redose if needed
   - follow all cultures
   - lung bx would be the last option when everything fails, not at this
   point yet as risk vs benefit ratio too high
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - check c. diff to rule out GI source
   - continue Continue vancomycin, levofloxacin
   - continue to follow all cultures
   - monitor lactate
   - check LFTs
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Acute renal failure: Cr continues to trend up.  FeNa 0.36, Urine Na
   18, consistent with pre-renal etiology. Per renal, pt has muddy brown
   casts, most likely ATN in the setting of hypotension. In the setting of
   ARDS with bilateral infiltrate, question patient has pulmonary
renal
   syndrome/vasculitis. Anemia is supportive of this possible diagnosis.
   [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive, however ANCA neg.
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs re: starting dialysis
   - use Bicarb if needed per renal
   .
   #) Anemia:  differential broad and includes anemia of chronic disease,
   iron deficiency, etc. iron studies are consistent with anemia of
   chronic disease or anemia of inflammation, B12 and folate normal. No
   hemoptysis to suggest DAH, however this is still a possibility.
   - Guaiac stools
   - Transfusion threshold <21 or evidence of active bleeding
   .
   #) Hyponatremia: resolved. Differential is hypovolemic versus SIADH
   (likely from lung process).
   - Follow trend
   .
   # Mental Status: currently sedated. Had some hand shakiness and muscle
   twitches when hands were lifted up. Possibly secondary to uremia and
   metabolic acidosis
   - continue to follow, this is the least of her problems at this point
   - can re-assess neuro status when pt is less sedated
   ICU Care
   Nutrition: TF held at MN
   Glycemic Control:  5U glargine + ISS
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-9**] 12:36 PM
   22 Gauge - [**2159-8-12**] 08:59 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-14 11:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2159-8-14**] 12:51 AM
   -Patient has had decrease in Creatinine
   -Levophed continued
   -Thoracic Surgery Consulted to consider options for biopsy and response
   was that open thoracotomy would be required which does represent a
   procedure with substantial risk
   -Patient with decrease in creatinine
   History obtained from Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-8-13**] 01:45 AM
   Aztreonam - [**2159-8-13**] 09:20 PM
   Meropenem - [**2159-8-14**] 12:00 AM
   Azithromycin - [**2159-8-14**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-14**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-14**] 07:39 AM
   Midazolam (Versed) - [**2159-8-14**] 10:18 AM
   Fentanyl - [**2159-8-14**] 10:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2159-8-14**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 75 (69 - 87) bpm
   BP: 99/42(60) {83/31(47) - 130/48(71)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.8 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 10 (5 - 24)mmHg
   Total In:
                                                                  2,787 mL
                                                                  1,495 mL
   PO:
   TF:
                                                                    736 mL
   IVF:
                                                                  1,907 mL
                                                                  1,450 mL
   Blood products:
   Total out:
                                                                    817 mL
                                                                    610 mL
   Urine:
                                                                    637 mL
                                                                    550 mL
   NG:
                                                                    180 mL
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,970 mL
                                                                    885 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 93%
   ABG: 7.29/45/96.[**Numeric Identifier 181**]/22/-4
   Ve: 11.3 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   228 K/uL
   99 mg/dL
   4.9 mg/dL
   22 mEq/L
   4.4 mEq/L
   88 mg/dL
   106 mEq/L
   142 mEq/L
   22.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2159-8-12**]  07:48 PM
                             [**2159-8-13**]  12:29 AM
                             [**2159-8-13**]  03:18 AM
                             [**2159-8-13**]  03:28 AM
                             [**2159-8-13**]  05:27 AM
                             [**2159-8-13**]  09:40 AM
                             [**2159-8-13**]  04:09 PM
                             [**2159-8-14**]  03:39 AM
                             [**2159-8-14**]  03:59 AM
                             [**2159-8-14**]  09:51 AM
   WBC
   10.5
   7.2
   Hct
   24.4
   23
   22.3
   Plt
   233
   228
   Cr
   5.3
   4.9
   TCO2
   23
   21
   22
   23
   24
   23
   25
   23
   Glucose
   144
   205
   99
   Other labs: PT / PTT / INR:14.5/33.1/1.3, ALT / AST:35/56, Alk Phos / T
   Bili:197/0.4, Amylase / Lipase:19/19, Differential-Neuts:84.5 %,
   Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.4 g/dL, LDH:534 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:5.1
   mg/dL
   Imaging: CXR-Patient with persistent and bilateral infiltrates seen
   suggesting continued consolidation and likely co-existing effusions.
   Microbiology: Blood Cultures-Negative
   Viral Cultures-Negative
   Anti-GBM-Pending
   Assessment and Plan
   70 yo female with initial admission with hypoxemic respiratory failure
   now with persistent hypoxemia and respiratory failure.  She has had
   persistent hypotension and renal failure secondary to ATN.  Importantly
   she has had some decrease in creatinine, she has had decreased urine
   output.  We have had fixed PEEP requirement across past 24 hours.
   1)Respiratory Failure-She has persistent ventilator requirements and
   suggesetion of radiographic worsening.  We do have no evidence of
   infectious pathogen and do have limited evidence of recovery beyond
   initial improvements seen [**8-10**].  We have considere carefully and in
   discussion with thoracic surgery possible approaches to biopsy which
   represent procedure with thoracotomy and likely significant risk with
   BPF and air leak following procedure.  The respiratory failure is
   secondary to
   A)ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])-
   -Continue with lung protective strategy
   -Will look to minimize fluids as possible but do already see
   significnat bilateral pleural effusions
   -FIO2 and PEEP at acceptable level
   -Continue full support
   B)PNEUMONIA-have not had any evidence of positive culture results
   across bacterial and viral assays.  The clinical picture of high fevers
   and acute evolution of infiltrates is suggestive but the nature of
   infiltrates is atypical for any single pathogen
   -Meropenem/Azithromycin
   -Follow up viral cultures
   C)Pneumonitis-This is suggested given nature of infiltrates and concern
   for possible AIP/Hamman-[**Doctor First Name **].  She did not have any evidence of
   pulmonary hemorrhage on initial BAL.  We do not see evidence,
   therefore, for an acute vasculitic presentation.  The argument to move
   to empiric steroids would be based upon treatment of an idiopathic
   pneumonitis.
   -Will continue to monitor response to current antibiotics
   -Will continue with Meropenem and look to response by HD #7 given
   current clinical course
   -Will evaluate tooth as possible source of pathogen but this, as
   aspirated organism would have been expected to be seen on bronchoscopy
   2)Sepsis
   -Ongoing Rx with continued fevers seen
   -Will need evaluation of tooth lesion
   -Will need to consider intra-abdominal source with ultrasound
   -Continue with broad spectrum antibiotics
   -Wean levophed as possible
   3)Acute Renal Failure-
   -Continue to support for ATN at this time
   -Do have improvement in creatinine from 5.3 and have an increase in
   urine output from yesterday into today.
   -IVF as needed for decrease in blood pressure
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-9**] 12:36 PM
   22 Gauge - [**2159-8-12**] 08:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 44 minutes

2159-08-15 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2159-8-14**] 08:07 AM
 URINE CULTURE - At [**2159-8-14**] 08:07 AM
 MULTI LUMEN - STOP [**2159-8-14**] 01:30 PM
 MULTI LUMEN - START [**2159-8-14**] 01:30 PM
 FEVER - 102.7
F - [**2159-8-15**] 12:00 AM
   - renal recs: no RRT today, d/c temp dialysis line order
   - ID recs: continue the current abx regimen
   - RUQ US: Gallbladder 'sludge' but no sono evidence for acute
   cholecystitis
   - dental consult: dental panorex after extubation, then arrange oral
   surgery extraction of tooth. no intervention currently
   - CVL re-sited
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-8-13**] 01:45 AM
   Aztreonam - [**2159-8-13**] 09:20 PM
   Azithromycin - [**2159-8-14**] 10:00 AM
   Meropenem - [**2159-8-14**] 11:45 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 14 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2159-8-14**] 10:00 PM
   Fentanyl - [**2159-8-14**] 10:00 PM
   Pantoprazole (Protonix) - [**2159-8-15**] 07:31 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-15**] 07:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.9
C (100.3
   HR: 87 (68 - 94) bpm
   BP: 110/48(68) {83/31(47) - 133/62(82)} mmHg
   RR: 38 (13 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.3 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 13 (5 - 13)mmHg
   CO/CI (Fick): (-216.1 L/min) / (-121.1 L/min/m2)
   Mixed Venous O2% Sat: 94 - 94
   Total In:
                                                                  2,447 mL
                                                                    760 mL
   PO:
   TF:
                                                                    365 mL
                                                                    269 mL
   IVF:
                                                                  1,977 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    490 mL
   Urine:
                                                                  1,400 mL
                                                                    490 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    927 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 94%
   ABG: 7.24/55/87.[**Numeric Identifier 181**]/23/-4
   Ve: 11.3 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Labs / Radiology
   345 K/uL
   7.7 g/dL
   144 mg/dL
   4.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   96 mg/dL
   104 mEq/L
   140 mEq/L
   23.0 %
   13.3 K/uL
        [image002.jpg]
                             [**2159-8-13**]  04:09 PM
                             [**2159-8-14**]  03:39 AM
                             [**2159-8-14**]  03:59 AM
                             [**2159-8-14**]  09:51 AM
                             [**2159-8-14**]  03:40 PM
                             [**2159-8-14**]  06:20 PM
                             [**2159-8-14**]  07:42 PM
                             [**2159-8-15**]  01:44 AM
                             [**2159-8-15**]  04:42 AM
                             [**2159-8-15**]  05:16 AM
   WBC
   7.2
   13.3
   Hct
   23
   22.3
   23.0
   Plt
   228
   345
   Cr
   4.9
   4.3
   TCO2
   23
   25
   23
   23
   23
   25
   24
   25
   Glucose
   99
   144
   Other labs:
   PT / PTT / INR:14.5/29.5/1.3,
   Lactic Acid:0.6 mmol/L
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:5.9 mg/dL
   SPEP no abnormalities
   AM cortisol: 22.9
   Hep panel pending
   Micro:
   Viral cx wit hDFA [**8-13**] pending
   Adenovirus, anaplasma, anti-GBM, babesia pending
   Mycoplasma negative
   Chlamydia pending
   Lyme pending
   C diff pending
   Blood culture from [**2073-8-6**]: NGTD
   BAL from [**8-9**]: no bacteria, no AFB, no legionella, no PCP. +
   aspergillus (1 colony on 1 plate)
   Sputum from [**8-9**]: sparse growth of yeast, +aspergillus (1 colony on 1
   plate)
   CMV IgG+, IgM-
   Nasopharyngeal swab or BAL: no respiratory viral antigen, no VZV or CMV
   Urine culture from [**Date range (1) 10162**]: pending
   Imaging:
   CXR (my read): persistent bilat effusions and opacities
   RUQ u/s: gallbladder sludge, no acute cholecystitis
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who came with subjective fevers, sore
   throat, and now in respiratory failure.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad. She describes a prodrome lasting a few weeks,
   however relatively acute onset of shortness of breath today on day of
   presentation. Her chest x-ray is not completely consistent with a
   picture of just CHF, and she did not respond to lasix as expected if
   this was the whole story. Her fevers are more suggestive of an
   infectious process; given her chest x-ray an atypical process such as
   legionella or mycoplasma would be higher on the differential. Viral
   process (such as varicella, CMV) would also be possibilties. She has no
   known risk factors for PCP.  [**Name10 (NameIs) **] considerations would be
   rheumatologic processes (vasculitis, pulmonary-renal syndromes, however
   renal function is WNL), institial lung diseases such as UIP/AIP/DIP,
   hypersensitivity pneumonitis, bronchoalveolar carcinoma. No hemoptysis
   to suggest DAH, and suctions from ETT and bronchoscopy showed no rustic
   blood color or alveolar bleeding.  Patient meets the criteria for ARDS
   as it is acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR. In terms of the precipitate of ARDS, could be
   aspiration pneumonitis, viral or atypical pneumonia, or inhalation in
   the environment. No evidence of pancreatitis, sepsis, no h/o
   transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - currently on PC, continue current settings as pt did not tolerate
   other modes and settings well
   - continue meropenam and azithro as per ID
   - f/u ID recs- ask if antifungal coverage is warranted
   - f/u Vanc trough today and redose if needed
   - follow all cultures
   - opted against lung bx for now as risk too high with thorocotomy
   - will start high-dose steroid tx today since still no improvement-
   salumederol 1g daily x 3days (pt unlikely to have CHF as recent ECHo
   shows normal EF and good central venous O2 sats)
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - c. diff neg x1
   - continue [**Last Name (un) 614**] and azithro as per ID
   - continue to follow all cultures
   - monitor lactate
   - LFTs elev, RUQ rules out acute cholecystitis, hep panel is pending
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Acute renal failure: Cr continues to trend down.  FeNa 0.36, Urine
   Na 18, consistent with pre-renal etiology. Per renal, pt has muddy
   brown casts, most likely ATN in the setting of hypotension. In the
   setting of ARDS with bilateral infiltrate, question patient has
   pulmonary
renal syndrome/vasculitis. Anemia is supportive of this
   possible diagnosis. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive, however ANCA
   neg.
   - Cr trending down (4.9 today), continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs (no dialysis since Cr is improving
   .
   #) Anemia:  differential broad and includes anemia of chronic disease,
   iron deficiency, etc. iron studies are consistent with anemia of
   chronic disease or anemia of inflammation, B12 and folate normal. No
   hemoptysis to suggest DAH.
   - Guaiac stools
   - Transfusion threshold <21 or evidence of active bleeding
   .
   #) Hyponatremia: resolved. Differential is hypovolemic versus SIADH
   (likely from lung process).
   - Follow trend
   .
   # Mental Status: currently sedated. Had some hand shakiness and muscle
   twitches when hands were lifted up. Possibly secondary to uremia and
   metabolic acidosis
   - pt is on very high doses of fentanyl and versed currently, with still
   dissynchronous breathing
   - will f/u pharm recs regarding other options for sedation
   - can re-assess neuro status when pt is less sedated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-14**] 12:19 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-15 12:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2159-8-14**] 08:07 AM
 URINE CULTURE - At [**2159-8-14**] 08:07 AM
 MULTI LUMEN - STOP [**2159-8-14**] 01:30 PM
 MULTI LUMEN - START [**2159-8-14**] 01:30 PM
 FEVER - 102.7
F - [**2159-8-15**] 12:00 AM
   CVL re-sited yesterday due to concern for contamination
   RUQ U/S-no cholecystitis--done for persistent fevers.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-8-13**] 01:45 AM
   Aztreonam - [**2159-8-13**] 09:20 PM
   Meropenem - [**2159-8-14**] 11:45 PM
   Azithromycin - [**2159-8-15**] 07:50 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2159-8-14**] 10:00 PM
   Fentanyl - [**2159-8-14**] 10:00 PM
   Pantoprazole (Protonix) - [**2159-8-15**] 07:31 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-15**] 07:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2159-8-15**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.2
C (98.9
   HR: 80 (68 - 94) bpm
   BP: 111/47(67) {79/37(51) - 133/62(82)} mmHg
   RR: 18 (13 - 38) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.3 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 13 (6 - 13)mmHg
   CO/CI (Fick): (-216.1 L/min) / (-121.1 L/min/m2)
   Mixed Venous O2% Sat: 94 - 94
   Total In:
                                                                  2,447 mL
                                                                  1,306 mL
   PO:
   TF:
                                                                    365 mL
                                                                    424 mL
   IVF:
                                                                  1,977 mL
                                                                    713 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    870 mL
   Urine:
                                                                  1,400 mL
                                                                    870 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    927 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 92%
   ABG: 7.24/52/89.[**Numeric Identifier 126**]/23/-5
   Ve: 10.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   345 K/uL
   144 mg/dL
   4.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   96 mg/dL
   104 mEq/L
   140 mEq/L
   23.0 %
   13.3 K/uL
        [image002.jpg]
                             [**2159-8-14**]  03:39 AM
                             [**2159-8-14**]  03:59 AM
                             [**2159-8-14**]  09:51 AM
                             [**2159-8-14**]  03:40 PM
                             [**2159-8-14**]  06:20 PM
                             [**2159-8-14**]  07:42 PM
                             [**2159-8-15**]  01:44 AM
                             [**2159-8-15**]  04:42 AM
                             [**2159-8-15**]  05:16 AM
                             [**2159-8-15**]  08:21 AM
   WBC
   7.2
   13.3
   Hct
   22.3
   23.0
   Plt
   228
   345
   Cr
   4.9
   4.3
   TCO2
   25
   23
   23
   23
   25
   24
   25
   23
   Glucose
   99
   144
   Other labs: PT / PTT / INR:14.5/29.5/1.3, ALT / AST:35/56, Alk Phos / T
   Bili:197/0.4, Amylase / Lipase:19/19, Differential-Neuts:84.5 %,
   Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.4 g/dL, LDH:534 IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:5.9
   mg/dL
   Imaging: CXr-Patient with persistence of bilateral diffuse alveolar
   infiltrates with mild sparing of upper lobes
   Assessment and Plan
   70 yo female with admission with prodrome of fever and myalgia and now
   with evolving extensive pulmonary infiltrates with diffuse opacities,
   acute onset and severe hypoxemia all consistent wtih ARDS.  No evidence
   of alveolar hemorrhage is seen.  We do not have any meaningful trend
   back towards normal capacity for oxygenation and ventilation.  In this
   setting after a week of antibiotic therapy and will all possible
   sources of infection considered, including possible tooth infection we
   do not have an identified source or alternatve treatment option.  We
   have discussed with surgery the possibility of biopsy but this would
   involve thoracotomy and in their impression would represent increased
   risk out of proportion to possible benefit.
   1)Respiratory Failure
Acute( ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS,
   ACUTE LUNG INJURY, [**Doctor Last Name 11**]))
   -Will maintain PCV mode continuing
   -We have adequate support but incapacity to decrease FIO2 or maintain
   and stability of support
   -Will follow ABG
   -Will continue with PCV support
   -Will continue with broad spectrum antibiotics-_Azithro/Meropenem
   -Will look to culture results
   -Will move to hight dose steroids to look for response from possible
   primary distrubance of inflammation but with AIP/[**Last Name (un) 4350**]-[**Doctor First Name **] or in fact
   an organizing pneumonitis so will move to Solumdrol 250mg qid x 48
   hours
   -With reasonable CVP, preserved and elevated central venous sat
   cardiogenic pulmonary edema is unlikley at this time.
   2)Sepsis-
   -Continue with pressors
   -Look to titrate as possible today
   -Continue treatment for broad spectrum antibiotics
   3)Altered Mental Status-
   -Will move to Propofol for dosing
   -Will look to wean as possible current medications
   -Will consider Presidex if needed or Ketamine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-14**] 12:19 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes

2159-08-16 06:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   - RUQ u/s: IMPRESSION: Gallbladder "sludge" without son[**Name (NI) 351**]
   evidence for acute cholecystitis.
   - started methadone protocol: 40 mg IV once then 20 mg IV q6h, weaned
   Fentanyl down by 100....
   - ID recs: no antifungal
   - started IV salumedrol 1g daily x 3days
   - EKG in AM to look for QT prolongation (on methadone and azithro)
   - renal recs: keep even fluid balance, no acute HD needs, Cr improving,
   renally dose meds for GFR ~10
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Aztreonam - [**2159-8-13**] 09:20 PM
   Meropenem - [**2159-8-14**] 11:45 PM
   Azithromycin - [**2159-8-15**] 07:50 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-15**] 07:31 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-15**] 07:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-16**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.4
   HR: 76 (76 - 87) bpm
   BP: 124/52(76) {79/37(51) - 138/54(79)} mmHg
   RR: 23 (17 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.3 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 10 (10 - 18)mmHg
   Total In:
                                                                  2,447 mL
                                                                    587 mL
   PO:
   TF:
                                                                    841 mL
                                                                    236 mL
   IVF:
                                                                  1,435 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    410 mL
   Urine:
                                                                  1,740 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    707 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 94%
   ABG: 7.21/58/87.[**Numeric Identifier 181**]/22/-5
   Ve: 10.4 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Labs / Radiology
   8.4 g/dL
   383 K/uL
   225 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.6 mEq/L
   100 mg/dL
   107 mEq/L
   143 mEq/L
   25.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2159-8-14**]  03:40 PM
                             [**2159-8-14**]  06:20 PM
                             [**2159-8-14**]  07:42 PM
                             [**2159-8-15**]  01:44 AM
                             [**2159-8-15**]  04:42 AM
                             [**2159-8-15**]  05:16 AM
                             [**2159-8-15**]  08:21 AM
                             [**2159-8-15**]  05:24 PM
                             [**2159-8-16**]  05:05 AM
                             [**2159-8-16**]  05:26 AM
   WBC
   13.3
   13.1
   Hct
   23.0
   25.5
   Plt
   345
   383
   Cr
   4.3
   3.8
   TCO2
   23
   23
   25
   24
   25
   23
   24
   24
   Glucose
   144
   225
   Other labs:
   PT / PTT / INR:13.7/27.0/1.2,
   Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:7.1 mg/dL
   SPEP no abnormalities
   AM cortisol: 22.9
   Hep B C neg, Hep A IgG+, IgM-
   Micro:
   Blood culture from [**2073-8-9**]: NGTD
   Urine culture from [**Date range (1) 10162**]: neg
   BAL from [**8-9**]: no bacteria, no AFB, no legionella, no PCP. +
   aspergillus (1 colony on 1 plate)
   Nasopharyngeal swab or BAL: no respiratory viral antigen, no VZV or CMV
   Viral screen and culture from [**8-13**]: neg
   Mycoplasma negative
   C diff neg x2
   Adenovirus, anaplasma, anti-GBM, babesia, Chlamydia, Lyme pending
   Sputum from [**8-9**]: sparse growth of yeast, +aspergillus (1 colony on 1
   plate)
   CMV IgG+, IgM-
   Imaging:
   CXR (my read): persistent bilat effusions and opacities
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who came with subjective fevers, sore
   throat, and now in respiratory failure.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad. She describes a prodrome lasting a few weeks,
   however relatively acute onset of shortness of breath today on day of
   presentation. Her chest x-ray is not completely consistent with a
   picture of just CHF, and she did not respond to lasix as expected if
   this was the whole story. Her fevers are more suggestive of an
   infectious process; given her chest x-ray an atypical process such as
   legionella or mycoplasma would be higher on the differential. Viral
   process (such as varicella, CMV) would also be possibilties. She has no
   known risk factors for PCP.  [**Name10 (NameIs) **] considerations would be
   rheumatologic processes (vasculitis, pulmonary-renal syndromes, however
   renal function is WNL), institial lung diseases such as UIP/AIP/DIP,
   hypersensitivity pneumonitis, bronchoalveolar carcinoma. No hemoptysis
   to suggest DAH, and suctions from ETT and bronchoscopy showed no rustic
   blood color or alveolar bleeding.  Patient meets the criteria for ARDS
   as it is acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR. In terms of the precipitate of ARDS, could be
   aspiration pneumonitis, viral or atypical pneumonia, or inhalation in
   the environment. No evidence of pancreatitis, sepsis, no h/o
   transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - currently on PC, continue current settings as pt did not tolerate
   other modes and settings well
   - continue steroids salumederol 1g daily x 3days
   - no antifungal per ID
   - continue meropenam and azithro as per ID
   - f/u ID recs
   - f/u Vanc trough today and redose if needed
   - follow all cultures
   - opted against lung bx for now as risk too high with thorocotomy
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - c. diff neg x1
   - continue [**Last Name (un) 614**] and azithro as per ID
   - continue to follow all cultures
   - monitor lactate
   - LFTs elev, RUQ rules out acute cholecystitis, hep panel is pending
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Acute renal failure: Cr continues to trend down.  FeNa 0.36, Urine
   Na 18, consistent with pre-renal etiology. Per renal, pt has muddy
   brown casts, most likely ATN in the setting of hypotension. In the
   setting of ARDS with bilateral infiltrate, question patient has
   pulmonary
renal syndrome/vasculitis. Anemia is supportive of this
   possible diagnosis. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive, however ANCA
   neg.
   - Cr trending down (4.9 today), continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs (no dialysis since Cr is improving
   .
   #) Anemia:  differential broad and includes anemia of chronic disease,
   iron deficiency, etc. iron studies are consistent with anemia of
   chronic disease or anemia of inflammation, B12 and folate normal. No
   hemoptysis to suggest DAH.
   - Guaiac stools
   - Transfusion threshold <21 or evidence of active bleeding
   .
   #) Hyponatremia: resolved. Differential is hypovolemic versus SIADH
   (likely from lung process).
   - Follow trend
   .
   # Mental Status: currently sedated. Had some hand shakiness and muscle
   twitches when hands were lifted up. Possibly secondary to uremia and
   metabolic acidosis
   - pt is on very high doses of fentanyl and versed currently, with still
   dissynchronous breathing
   - will f/u pharm recs regarding other options for sedation
   - can re-assess neuro status when pt is less sedated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-15**] 06:05 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-16 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   - RUQ u/s: IMPRESSION: Gallbladder "sludge" without son[**Name (NI) 351**]
   evidence for acute cholecystitis.
   - started methadone protocol: 40 mg IV once then 20 mg IV q6h, weaned
   Fentanyl down by 100....
   - ID recs: no antifungal
   - started IV salumedrol 1g daily x 3days
   - EKG in AM to look for QT prolongation (on methadone and azithro)
   - renal recs: keep even fluid balance, no acute HD needs, Cr improving,
   renally dose meds for GFR ~10
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Aztreonam - [**2159-8-13**] 09:20 PM
   Meropenem - [**2159-8-14**] 11:45 PM
   Azithromycin - [**2159-8-15**] 07:50 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-15**] 07:31 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-15**] 07:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-16**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.4
   HR: 76 (76 - 87) bpm
   BP: 124/52(76) {79/37(51) - 138/54(79)} mmHg
   RR: 23 (17 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.3 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 10 (10 - 18)mmHg
   Total In:
                                                                  2,447 mL
                                                                    587 mL
   PO:
   TF:
                                                                    841 mL
                                                                    236 mL
   IVF:
                                                                  1,435 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    410 mL
   Urine:
                                                                  1,740 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    707 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 94%
   ABG: 7.21/58/87.[**Numeric Identifier 181**]/22/-5
   Ve: 10.4 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Labs / Radiology
   8.4 g/dL
   383 K/uL
   225 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.6 mEq/L
   100 mg/dL
   107 mEq/L
   143 mEq/L
   25.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2159-8-14**]  03:40 PM
                             [**2159-8-14**]  06:20 PM
                             [**2159-8-14**]  07:42 PM
                             [**2159-8-15**]  01:44 AM
                             [**2159-8-15**]  04:42 AM
                             [**2159-8-15**]  05:16 AM
                             [**2159-8-15**]  08:21 AM
                             [**2159-8-15**]  05:24 PM
                             [**2159-8-16**]  05:05 AM
                             [**2159-8-16**]  05:26 AM
   WBC
   13.3
   13.1
   Hct
   23.0
   25.5
   Plt
   345
   383
   Cr
   4.3
   3.8
   TCO2
   23
   23
   25
   24
   25
   23
   24
   24
   Glucose
   144
   225
   Other labs:
   PT / PTT / INR:13.7/27.0/1.2,
   Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:7.1 mg/dL
   SPEP no abnormalities
   AM cortisol: 22.9
   Hep B C neg, Hep A IgG+, IgM-
   Micro:
   Blood culture from [**2073-8-9**]: NGTD
   Urine culture from [**Date range (1) 10162**]: neg
   BAL from [**8-9**]: no bacteria, no AFB, no legionella, no PCP. +
   aspergillus (1 colony on 1 plate)
   Nasopharyngeal swab or BAL: no respiratory viral antigen, no VZV or CMV
   Viral screen and culture from [**8-13**]: neg
   Mycoplasma negative
   C diff neg x2
   Adenovirus, anaplasma, anti-GBM, babesia, Chlamydia, Lyme pending
   Sputum from [**8-9**]: sparse growth of yeast, +aspergillus (1 colony on 1
   plate)
   CMV IgG+, IgM-
   Imaging:
   CXR (my read): persistent bilat effusions and opacities
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who came with subjective fevers, sore
   throat, and now in respiratory failure.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad. She describes a prodrome lasting a few weeks,
   however relatively acute onset of shortness of breath today on day of
   presentation. Her chest x-ray is not completely consistent with a
   picture of just CHF, and she did not respond to lasix as expected if
   this was the whole story. Her fevers are more suggestive of an
   infectious process; given her chest x-ray an atypical process such as
   legionella or mycoplasma would be higher on the differential. Viral
   process (such as varicella, CMV) would also be possibilties. She has no
   known risk factors for PCP.  [**Name10 (NameIs) **] considerations would be
   rheumatologic processes (vasculitis, pulmonary-renal syndromes, however
   renal function is WNL), institial lung diseases such as UIP/AIP/DIP,
   hypersensitivity pneumonitis, bronchoalveolar carcinoma. No hemoptysis
   to suggest DAH, and suctions from ETT and bronchoscopy showed no rustic
   blood color or alveolar bleeding.  Patient meets the criteria for ARDS
   as it is acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR. In terms of the precipitate of ARDS, could be
   aspiration pneumonitis, viral or atypical pneumonia, or inhalation in
   the environment. No evidence of pancreatitis, sepsis, no h/o
   transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - currently on PC, continue current settings as pt did not tolerate
   other modes and settings well
   - per pharmacy, continue methadone, change dose to 20mg Q4h, and
   continue to wean off fentanyl to reduce dyssynchronous breathing
   - continue steroids salumederol 1g daily x 3days
   - no antifungal per ID
   - continue vanc, meropenam and azithro as per ID
   - f/u Vanc trough today and redose if needed, yesterday 15.2
- f/u ID recs on Tamiflu dose. Per ID, given that her overall syndrome is consis
tent with influenza, reasonable to check nasopharyngeal swab and start tamiflu.
   - follow all cultures
   - opted against lung bx for now as risk too high with thorocotomy
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - c. diff neg x2
   - continue vanc, [**Last Name (un) 614**] and azithro as per ID
   - continue to follow all cultures
   - monitor lactate
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Acute renal failure: Cr continues to trend down.  FeNa 0.36, Urine
   Na 18, consistent with pre-renal etiology. Per renal, pt has muddy
   brown casts, most likely ATN in the setting of hypotension. In the
   setting of ARDS with bilateral infiltrate, question patient has
   pulmonary
renal syndrome/vasculitis. Anemia is supportive of this
   possible diagnosis. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive, however ANCA
   neg.
   - Cr trending down, continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs (no dialysis since Cr is improving)
   .
   #) Hyperphosphatemia: phos 7.1. [**12-25**] ARF.
   - per renal, start renegel 800mg TID
   - continue to trend
   .
   #) Anemia: Hct stable. differential broad and includes anemia of
   chronic disease, iron deficiency, etc. iron studies are consistent with
   anemia of chronic disease or anemia of inflammation, B12 and folate
   normal. No hemoptysis to suggest DAH.
   - Guaiac stools
   - Transfusion threshold <21 or evidence of active bleeding
   .
   #) Hyponatremia: resolved. Differential is hypovolemic versus SIADH
   (likely from lung process).
   - Follow trend
   .
   # Mental Status: currently sedated. Had some hand shakiness and muscle
   twitches when hands were lifted up. Possibly secondary to uremia and
   metabolic acidosis
   - pt is on very high doses of fentanyl and versed currently, with still
   dissynchronous breathing
   - per pharmacy, continue methadone, change dose to 20mg Q4h
   - can re-assess neuro status when pt is less sedated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-15**] 06:05 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-16 11:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Solumedrol started for Rx of primary contribution from idiopathic
   interstitial lung disease contribution to persistent hypoxemic
   respiratory failure
   -Methodone started for sedation
   History obtained from Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Aztreonam - [**2159-8-13**] 09:20 PM
   Meropenem - [**2159-8-14**] 11:45 PM
   Azithromycin - [**2159-8-16**] 08:18 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2159-8-16**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 84 (76 - 84) bpm
   BP: 120/49(71) {92/45(60) - 138/55(79)} mmHg
   RR: 27 (19 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 10 (10 - 18)mmHg
   Total In:
                                                                  2,447 mL
                                                                  1,176 mL
   PO:
   TF:
                                                                    841 mL
                                                                    402 mL
   IVF:
                                                                  1,435 mL
                                                                    774 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    710 mL
   Urine:
                                                                  1,740 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    707 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 94%
   ABG: 7.21/58/87.[**Numeric Identifier 181**]/22/-5
   Ve: 10.3 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   383 K/uL
   225 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.6 mEq/L
   100 mg/dL
   107 mEq/L
   143 mEq/L
   25.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2159-8-14**]  03:40 PM
                             [**2159-8-14**]  06:20 PM
                             [**2159-8-14**]  07:42 PM
                             [**2159-8-15**]  01:44 AM
                             [**2159-8-15**]  04:42 AM
                             [**2159-8-15**]  05:16 AM
                             [**2159-8-15**]  08:21 AM
                             [**2159-8-15**]  05:24 PM
                             [**2159-8-16**]  05:05 AM
                             [**2159-8-16**]  05:26 AM
   WBC
   13.3
   13.1
   Hct
   23.0
   25.5
   Plt
   345
   383
   Cr
   4.3
   3.8
   TCO2
   23
   23
   25
   24
   25
   23
   24
   24
   Glucose
   144
   225
   Other labs: PT / PTT / INR:13.7/27.0/1.2, ALT / AST:35/56, Alk Phos / T
   Bili:197/0.4, Amylase / Lipase:19/19, Differential-Neuts:84.5 %,
   Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.4 g/dL, LDH:534 IU/L, Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:7.1
   mg/dL
   Imaging: CXR--Persistence of bilateral effusions.
   Assessment and Plan
   70 yo female with severe ARDS, Sepsis and renal failure.  This has been
   refractory to medical intervention to date with broad spectrum
   antibiotics trialed with ARDSnet strategy for support of respiratory
   failure.  This would suggest a significant primary insult as well from
   interstitial pneumonitis and after consideration of the risks of
   surgical approach have moved to empiric treatment with steroids given
   risks of thoracotomy in this setting and chance for non-diagnostic
   biopsy.
   Respiratory Failure-Patient with persistent and significant hypoxemic
   respiratory failure with desaturations even with re-positioning
   -Levoflox/Azithromycin/Meropenem
   -Methyprednisolone at 1 gram/d x 3 days
   -Follow culture results
   -Continue with current ventilator settings
   -Will Rx with Tamiflu during steroid Rx
   -Move to Methadone dosing today
   ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   -Continue with pressure control ventilation
   -Will maintain PEEP optimization
   -Will need to continue to wean FIO2 as tolerated
   Acute Renal Failure-
   -Mild decrease in creatinine likely represents plateau and look to post
   ATN diuresis
   -Hope to move to negative fluild balance
   -Do not have good evidence for need for CVVH at this time
   -If we confirm on CXR persistence of pulmonary edema or effusion will
   have to consider CVVH for volume removal if BP improved to tolerate or
   FIO2 requiremen increased
   Sepsis-
   -Continue with pressors and look to wean Levophed as tolerated
   -Continue with broad spectrum ABX and will add Tamiflu
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-15**] 06:05 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2159-08-17 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - off pressors since 10AM
   - continued steroids
   - repeat CXR today: stable.  In comparison with study of [**8-15**],
   technical limitations most likely account for the apparent changes and
   increased haziness of the hemithoraces.  Diffuse bilateral pulmonary
   opacifications persist
   - began phos binder: started aluminum hydroxide
   - still had vent dyssynchrony.  Per pharmacy, keep fentanyl as is,
   change methadone to 20 q4h (from q6h) and monitor for improvement
   before weaning fentanyl
   - [**Last Name (un) 614**], azithro continued
   - f/u ID recs: continue [**Last Name (un) 614**], azithro, vanco.  Nasopharyngeal swab may
   be unreliable due to lack of cells.  Tamiflu 75 [**Hospital1 7**] initiated.  Beta
   glucan and galactomannan ordered.
   - fu renal recs: Improving renal function, no need for emergent cvvh
   today.  Expect further post-ATN diuresis, so consider giving some D5W.
   Please start renagel 800mg TID for increased phos.
   - increased ISS due to steroids.
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2159-8-16**] 08:18 AM
   Meropenem - [**2159-8-17**] 12:06 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-16**] 09:04 PM
   Methadone Hydrochloride - [**2159-8-17**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-17**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 56 (56 - 84) bpm
   BP: 115/50(75) {74/41(60) - 160/81(110)} mmHg
   RR: 28 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 6 (6 - 18)mmHg
   Total In:
                                                                  2,208 mL
                                                                    504 mL
   PO:
   TF:
                                                                    841 mL
                                                                    258 mL
   IVF:
                                                                  1,198 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    330 mL
   Urine:
                                                                  1,450 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    758 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.19/71/98.[**Numeric Identifier 176**]/28/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Labs / Radiology
   327 K/uL
   7.6 g/dL
   186 mg/dL
   3.3 mg/dL
   24 mEq/L
   4.6 mEq/L
   113 mg/dL
   109 mEq/L
   144 mEq/L
   24.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2159-8-15**]  04:42 AM
                             [**2159-8-15**]  05:16 AM
                             [**2159-8-15**]  08:21 AM
                             [**2159-8-15**]  05:24 PM
                             [**2159-8-16**]  05:05 AM
                             [**2159-8-16**]  05:26 AM
                             [**2159-8-16**]  03:05 PM
                             [**2159-8-17**]  03:38 AM
                             [**2159-8-17**]  04:02 AM
                             [**2159-8-17**]  05:13 AM
   WBC
   13.3
   13.1
   8.1
   Hct
   23.0
   25.5
   24.5
   Plt
   [**Telephone/Fax (3) 10292**]
   Cr
   4.3
   3.8
   3.3
   TCO2
   25
   23
   24
   24
   25
   28
   28
   Glucose
   144
   225
   186
   Other labs:
   PT / PTT / INR:13.3/24.0/1.1,
   Ca++:8.8 mg/dL, Mg++:3.0 mg/dL, PO4:7.3 mg/dL
   Lactate 0.8
   Micro:
   blood cx [**8-11**] to [**8-15**]: NGTD
   BAL [**8-9**]: no bacteria, no legionella, no PCP, [**Name10 (NameIs) 10293**] [**Country 10294**].    1
   COLONY ON 1 PLATE.
   catheter tip [**8-14**]: No sig growth
   respiratory viral cx: neg, no CMV, no VZV
   lyme serology [**8-13**]: neg
   sputum cx [**8-9**]: yeasts, sparse growth. And [**Month/Year (2) **] [**Country **].
   c. diff neg x2
   urine cx [**8-14**]: neg
   urine legionella antigen: neg
   adenovirus PCR ([**8-11**]): neg
   anaplasma, babesia serologies: pending
   beta-glucan and galactomannan: pending
   anti-GBM: pending
   Imaging:
   CXR ([**8-17**]): my read: persistent bilateral infiltrate, stable compared
   to yesterday
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who came with subjective fevers, sore
   throat, and now in respiratory failure.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad. She describes a prodrome lasting a few weeks,
   however relatively acute onset of shortness of breath today on day of
   presentation. Her chest x-ray is not completely consistent with a
   picture of just CHF, and she did not respond to lasix as expected if
   this was the whole story. Her fevers are more suggestive of an
   infectious process; given her chest x-ray an atypical process such as
   legionella or mycoplasma would be higher on the differential. Viral
   process (such as varicella, CMV) would also be possibilties. She has no
   known risk factors for PCP.  [**Name10 (NameIs) **] considerations would be
   rheumatologic processes (vasculitis, pulmonary-renal syndromes, however
   renal function is WNL), institial lung diseases such as UIP/AIP/DIP,
   hypersensitivity pneumonitis, bronchoalveolar carcinoma. No hemoptysis
   to suggest DAH, and suctions from ETT and bronchoscopy showed no rustic
   blood color or alveolar bleeding.  Patient meets the criteria for ARDS
   as it is acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR. In terms of the precipitate of ARDS, could be
   aspiration pneumonitis, viral or atypical pneumonia, or inhalation in
   the environment. No evidence of pancreatitis, sepsis, no h/o
   transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - currently on PC, decrease PEEP to 10 and maitain driving pressure at
   18
   - per pharmacy, continue methadone 20mg Q4h, and continue to wean off
   fentanyl to reduce dyssynchronous breathing
   - wean down midazolam
   - continue steroids salumederol 1g daily x 3days (day3 today)
   - continue vanc, meropenam and azithro, and tamiflu as per ID
   - per ID, will check tularemia serologies, and will check
   nasopharyngeal swab and BAL-mini viral DFA and cultures
   - no antifungal per ID
   - follow all cultures
   - opted against lung bx for now as risk too high with thorocotomy
   - f/u on anti-GBM
   - f/u anaplasma, babesia serologies, beta-glucan and galactomannan
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - continue vanc, [**Last Name (un) 614**] and azithro as per ID
   - continue to follow all cultures, c. diff neg x2
   - monitor lactate
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Acute renal failure: Cr continues to trend down.  FeNa 0.36, Urine
   Na 18, consistent with pre-renal etiology. Per renal, pt has muddy
   brown casts, most likely ATN in the setting of hypotension. In the
   setting of ARDS with bilateral infiltrate, question patient has
   pulmonary
renal syndrome/vasculitis. Anemia is supportive of this
   possible diagnosis. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive, however ANCA
   neg.
   - Cr trending down, continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs (no dialysis since Cr is improving)
   .
   #) Elevated LFTs: in the setting of acute illness, concerning for
   acalculous cholecystitis. RUQ US only showed gallbladder sludge without
   evidence of cholecystitis
   - trend LFTs daily
   - will repeat RUQ US if LFT continues to rise
   .
   #) Hyperphosphatemia: Most likely [**12-25**] ARF.
   - continue aluminum hydroxide
   - continue to trend
   .
   #) Anemia: Hct stable. differential broad and includes anemia of
   chronic disease, iron deficiency, etc. iron studies are consistent with
   anemia of chronic disease or anemia of inflammation, B12 and folate
   normal. No hemoptysis to suggest DAH.
   - Transfusion threshold <21 or evidence of active bleeding
   .
   # Mental Status: currently sedated.
   - wean down fentanyl and midazolam
   - per pharmacy, continue methadone 20mg Q4h
   - can re-assess neuro status when pt is less sedated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-16**] 10:38 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-17 11:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Tamiflu started at 75 [**Hospital1 7**] in the setting of high dose
   -Methadone started for aid in sedation management
   -Pressors weaned to off
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2159-8-17**] 12:06 AM
   Azithromycin - [**2159-8-17**] 08:11 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-17**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-17**] 08:12 AM
   Methadone Hydrochloride - [**2159-8-17**] 09:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2159-8-17**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 34.5
C (94.1
   HR: 64 (56 - 72) bpm
   BP: 109/49(72) {74/41(60) - 160/81(110)} mmHg
   RR: 29 (19 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 11 (6 - 18)mmHg
   Total In:
                                                                  2,208 mL
                                                                  1,061 mL
   PO:
   TF:
                                                                    841 mL
                                                                    377 mL
   IVF:
                                                                  1,198 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    535 mL
   Urine:
                                                                  1,450 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    758 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   RR (Set): 30
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 97%
   ABG: 7.19/71/98.[**Numeric Identifier 176**]/24/-2
   Ve: 9.7 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   327 K/uL
   186 mg/dL
   3.3 mg/dL
   24 mEq/L
   4.6 mEq/L
   113 mg/dL
   109 mEq/L
   144 mEq/L
   24.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2159-8-15**]  04:42 AM
                             [**2159-8-15**]  05:16 AM
                             [**2159-8-15**]  08:21 AM
                             [**2159-8-15**]  05:24 PM
                             [**2159-8-16**]  05:05 AM
                             [**2159-8-16**]  05:26 AM
                             [**2159-8-16**]  03:05 PM
                             [**2159-8-17**]  03:38 AM
                             [**2159-8-17**]  04:02 AM
                             [**2159-8-17**]  05:13 AM
   WBC
   13.3
   13.1
   8.1
   Hct
   23.0
   25.5
   24.5
   Plt
   [**Telephone/Fax (3) 10292**]
   Cr
   4.3
   3.8
   3.3
   TCO2
   25
   23
   24
   24
   25
   28
   28
   Glucose
   144
   225
   186
   Other labs: PT / PTT / INR:13.3/24.0/1.1, ALT / AST:35/56, Alk Phos / T
   Bili:197/0.4, Amylase / Lipase:19/19, Differential-Neuts:84.5 %,
   Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.4 g/dL, LDH:534 IU/L, Ca++:8.8 mg/dL, Mg++:3.0 mg/dL, PO4:7.3
   mg/dL
   Imaging: CXR--persistence of bilateral and diffuse pulmonary
   infiltrates, ETT anc CVL in good position
   Microbiology: No new culture results
   Assessment and Plan
   70 yo female with ARDS and ongoing support with recent intervention of
   high dose steroids for possible component of AIP/idopathic
   pneumonitis.  She has a worsening of effective ventilation and
   persistence of significant hypoxemia despite ongoing support and start
   of steroids Rx 2 days ago.  She does, however, have an improvement in
   sepsis.
   1)Respiratory Failure-
   -Fent 300, Versed 8, Methadone
   -Will continue with PCV
have trialed decrease in PEEP
will look to see
   improvement
   -Will check ABG
and titrate PEEP as indicated
if PCO2 is up and PO2 is
   down will up-titrate PEEP
   -Will minimize dead space in ventilatory circuit
   -Continue with PCV support today
   -Fluild bolus can be considered should PEEP titration prove ineffective
   2)Sepsis-
   -Meropenem/Azithro/Tamiflu all in place
   -Pressors off
   -Will continue with broad spectrum ABX
   3)Renal Failure-
   -Improving creatinine, improving urine flow over past 24 hours
   -Will continue with full support for perfusion
   -Encouraging that pressors are off
 HYPERGLYCEMIA
 HYPERPHOSPHATEMIA (HIGH PHOSPHATE)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-16**] 10:38 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Daughter in room and she was updated in
   full
she does express frustration with the fact that there has been
   minimal change in patient
s clinical course
   Code status: Full code
   Disposition :ICU
   Total time spent: 44 minutes
   Patient is critically ill

2159-08-18 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID recs: check tularemia, BAL and nasopharyngeal swab viral DFA and
   cultures. Last day of azithromycin tomorrow. Tamiflu for 7 days.
   - scleroderma labs ordered given pt's history of esophageal stricture
   and now lung disease (Anti-Centromere Ab; Scleroderma Antibody;
   Anti-RNA Polymerase I/III Antibodies)
   - kept her on PC, decreased PEEP from 12 to 10, and kept driving
   pressure at 18.
   - continued to wean fentanyl and midazolam. kept her on methadone 20mg
   q4h
   - finished high dose steroids today, will start to taper steroid
   tomorrow at 60mgx1d, 50mgx1d, 40mgx1d, 30mgx1d, 20mgx1d, 10mgx1d and
   5mgx1d.
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2159-8-17**] 08:11 AM
   Meropenem - [**2159-8-18**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 7.5 mg/hour
   Fentanyl (Concentrate) - 275.3 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-17**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-17**] 10:00 PM
   Methadone Hydrochloride - [**2159-8-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-18**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 66 (56 - 72) bpm
   BP: 139/57(87) {109/48(70) - 151/64(89)} mmHg
   RR: 29 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.3 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 14 (6 - 17)mmHg
   Total In:
                                                                  3,006 mL
                                                                    546 mL
   PO:
   TF:
                                                                    841 mL
                                                                    269 mL
   IVF:
                                                                  1,985 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    425 mL
   Urine:
                                                                  1,135 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,871 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 29 cmH2O
   SpO2: 94%
   ABG: 7.33/49/89.[**Numeric Identifier 126**]/23/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Labs / Radiology
   421 K/uL
   8.0 g/dL
   184 mg/dL
   2.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   120 mg/dL
   111 mEq/L
   145 mEq/L
   24.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2159-8-16**]  05:05 AM
                             [**2159-8-16**]  05:26 AM
                             [**2159-8-16**]  03:05 PM
                             [**2159-8-17**]  03:38 AM
                             [**2159-8-17**]  04:02 AM
                             [**2159-8-17**]  05:13 AM
                             [**2159-8-17**]  02:14 PM
                             [**2159-8-17**]  10:36 PM
                             [**2159-8-18**]  05:20 AM
                             [**2159-8-18**]  05:32 AM
   WBC
   13.1
   8.1
   7.5
   Hct
   25.5
   24.5
   24.8
   Plt
   383
   327
   421
   Cr
   3.8
   3.3
   2.7
   TCO2
   24
   25
   28
   28
   26
   27
   27
   Glucose
   [**Telephone/Fax (3) 10313**]
   Other labs:
   PT / PTT / INR:13.6/24.6/1.2,
   ALT / AST:39/48, Alk Phos / T Bili:111/0.2, Amylase / Lipase:19/19,
   Differential-Neuts:84.5 %, Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %,
   Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:352 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:5.3 mg/dL
   Micro:
   blood cx [**8-11**] to [**8-15**]: NGTD
   BAL [**8-9**]: no bacteria, no legionella, no PCP, [**Name10 (NameIs) 10293**] [**Country 10294**].    1
   COLONY ON 1 PLATE.
   catheter tip [**8-14**]: No sig growth
   respiratory viral cx: neg, no CMV, no VZV
   lyme serology [**8-13**]: neg
   sputum cx [**8-9**]: yeasts, sparse growth. And [**Month/Year (2) **] [**Country **].
   c. diff neg x2
   urine cx [**8-14**]: neg
   urine legionella antigen: neg
   adenovirus PCR ([**8-11**]): neg
   anaplasma, babesia serologies: pending
   beta-glucan and galactomannan: pending
   anti-GBM: pending
   Imaging:
   CXR ([**8-17**]): my read: persistent bilateral infiltrate, stable compared
   to yesterday
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and possible asthma who came with subjective fevers, sore
   throat, and now in respiratory failure.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad. She describes a prodrome lasting a few weeks,
   however relatively acute onset of shortness of breath today on day of
   presentation. Her chest x-ray is not completely consistent with a
   picture of just CHF, and she did not respond to lasix as expected if
   this was the whole story. Her fevers are more suggestive of an
   infectious process; given her chest x-ray an atypical process such as
   legionella or mycoplasma would be higher on the differential. Viral
   process (such as varicella, CMV) would also be possibilties. She has no
   known risk factors for PCP.  [**Name10 (NameIs) **] considerations would be
   rheumatologic processes (vasculitis, pulmonary-renal syndromes, however
   renal function is WNL), institial lung diseases such as UIP/AIP/DIP,
   hypersensitivity pneumonitis, bronchoalveolar carcinoma. No hemoptysis
   to suggest DAH, and suctions from ETT and bronchoscopy showed no rustic
   blood color or alveolar bleeding.  Patient meets the criteria for ARDS
   as it is acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR. In terms of the precipitate of ARDS, could be
   aspiration pneumonitis, viral or atypical pneumonia, or inhalation in
   the environment. No evidence of pancreatitis, sepsis, no h/o
   transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - currently on PC, decrease PEEP to 10 and maitain driving pressure at
   18
   - per pharmacy, continue methadone 20mg Q4h, and continue to wean off
   fentanyl to reduce dyssynchronous breathing
   - wean down midazolam
   - continue steroids salumederol 1g daily x 3days (day3 today)
   - continue vanc, meropenam and azithro, and tamiflu as per ID
   - per ID, will check tularemia serologies, and will check
   nasopharyngeal swab and BAL-mini viral DFA and cultures
   - no antifungal per ID
   - follow all cultures
   - opted against lung bx for now as risk too high with thorocotomy
   - f/u on anti-GBM
   - f/u anaplasma, babesia serologies, beta-glucan and galactomannan
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - continue vanc, [**Last Name (un) 614**] and azithro as per ID
   - continue to follow all cultures, c. diff neg x2
   - monitor lactate
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Acute renal failure: Cr continues to trend down.  FeNa 0.36, Urine
   Na 18, consistent with pre-renal etiology. Per renal, pt has muddy
   brown casts, most likely ATN in the setting of hypotension. In the
   setting of ARDS with bilateral infiltrate, question patient has
   pulmonary
renal syndrome/vasculitis. Anemia is supportive of this
   possible diagnosis. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive, however ANCA
   neg.
   - Cr trending down, continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs (no dialysis since Cr is improving)
   .
   #) Elevated LFTs: in the setting of acute illness, concerning for
   acalculous cholecystitis. RUQ US only showed gallbladder sludge without
   evidence of cholecystitis
   - trend LFTs daily
   - will repeat RUQ US if LFT continues to rise
   .
   #) Hyperphosphatemia: Most likely [**12-25**] ARF.
   - continue aluminum hydroxide
   - continue to trend
   .
   #) Anemia: Hct stable. differential broad and includes anemia of
   chronic disease, iron deficiency, etc. iron studies are consistent with
   anemia of chronic disease or anemia of inflammation, B12 and folate
   normal. No hemoptysis to suggest DAH.
   - Transfusion threshold <21 or evidence of active bleeding
   .
   # Mental Status: currently sedated.
   - wean down fentanyl and midazolam
   - per pharmacy, continue methadone 20mg Q4h
   - can re-assess neuro status when pt is less sedated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-18**] 03:10 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-18 13:30:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo f with discoid lupus, glaucoma, HTN admitted with acute
   respiratory failure and diffuse pulmonary infiltrates- diff dx viral
   syndrome/ARDS vs. ILD with negative micro data, unrevealing
   bronchoscopy, pending rheum pack. Received 3 day course of pulse
   steroids for possible rheum/vasculitis picture.
   24 Hour Events:
 NASAL SWAB - At [**2159-8-17**] 12:19 PM
   On PCV, PEEP weaned from 12 to 10
   methadone added to decrease fentanyl needs
   Last day of pulse steroids- to taper today
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2159-8-18**] 12:00 AM
   Azithromycin - [**2159-8-18**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-18**] 08:00 AM
   Methadone Hydrochloride - [**2159-8-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-18**] 01:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 60 (60 - 72) bpm
   BP: 136/60(87) {118/49(70) - 151/64(89)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.3 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 12 (11 - 23)mmHg
   Total In:
                                                                  3,006 mL
                                                                  1,086 mL
   PO:
   TF:
                                                                    841 mL
                                                                    468 mL
   IVF:
                                                                  1,985 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    845 mL
   Urine:
                                                                  1,135 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,871 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 91%
   ABG: 7.33/49/89.[**Numeric Identifier 126**]/23/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: scattered rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   8.0 g/dL
   421 K/uL
   184 mg/dL
   2.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   120 mg/dL
   111 mEq/L
   145 mEq/L
   24.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2159-8-16**]  05:05 AM
                             [**2159-8-16**]  05:26 AM
                             [**2159-8-16**]  03:05 PM
                             [**2159-8-17**]  03:38 AM
                             [**2159-8-17**]  04:02 AM
                             [**2159-8-17**]  05:13 AM
                             [**2159-8-17**]  02:14 PM
                             [**2159-8-17**]  10:36 PM
                             [**2159-8-18**]  05:20 AM
                             [**2159-8-18**]  05:32 AM
   WBC
   13.1
   8.1
   7.5
   Hct
   25.5
   24.5
   24.8
   Plt
   383
   327
   421
   Cr
   3.8
   3.3
   2.7
   TCO2
   24
   25
   28
   28
   26
   27
   27
   Glucose
   [**Telephone/Fax (3) 10313**]
   Other labs: PT / PTT / INR:13.6/24.6/1.2, ALT / AST:39/48, Alk Phos / T
   Bili:111/0.2, Amylase / Lipase:19/19, Differential-Neuts:84.5 %,
   Lymph:10.9 %, Mono:3.7 %, Eos:0.8 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:352 IU/L, Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:5.3
   mg/dL
   CXR: bilateral diffuse interstitial infiltrates
   Assessment and Plan
 HYPERGLYCEMIA
 HYPERPHOSPHATEMIA (HIGH PHOSPHATE)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   70 yo female with acute respiratory failure- specific etiology unknown,
   but differential includes viral syndrome/ARDS, AIP/interstitial
   pneumnitis
   1)Respiratory Failure-
   *Blood gas slightly better  but soon to tell if this will be a
   sustained trend; continues to have high vent requirements
   *will decrease FiO2 to 0.5; consider decreasing PEEP if FiO2 wean
   tolerated
   *Finished day 3 of high dose steroids- change to 60 mg to taper over
   the next week
   *On broad spectrum abx
   2)Sepsis-
   -Meropenem/Azithro/Tamiflu
   -ID continuing to follow
   3)Renal Failure-
   attributed to hypotension/ATN- renal function returning with decreased
   Cr
   *AlOH dc'd today per Renal
   4. AMS: difficult to evaluate further due to pt's high sedation needs
   as she becomes quickly dyssynchrnous with vent
   *On methadone 40 Q4h/fentanyl 150 mcg, midazolam
   *Attempt 25% reduction in fentanyl/midzaolam infusions
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-18**] 03:10 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2159-08-19 08:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2159-8-18**] 08:46 PM
   - continued to wean fentanyl/versed, kept methadone 20mg q4h
   - started prednisone taper yesterday
   - desatted to high 80s in PM -> EKG showed T wave inversions in V3-V4
   -> sent CEs, CXR (unchanged), ABG was 7.36/48/280 with 99% O2 sat ->
   replaced faulty sensor
   - 1st CEs were CK 29  MB 3  Trop-T 0.34 -> did repeat EKG which was
   unchanged from prior -> ordered 2nd and 3rd set CEs to trend, gave 325
   mg aspirin and transfused 2U pRBCs for goal of 30.
   - dc'd AlOH per renal
   - dc'd azithro per ID (finished 5d course)
   - [**First Name9 (NamePattern2) 7481**] [**Last Name (un) 614**] to q12h as renal fxn improving
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2159-8-18**] 12:00 AM
   Azithromycin - [**2159-8-18**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-18**] 08:00 AM
   Methadone Hydrochloride - [**2159-8-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-18**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-19**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 63 (59 - 71) bpm
   BP: 143/62(94) {125/52(78) - 158/69(101)} mmHg
   RR: 28 (12 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.3 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 8 (6 - 21)mmHg
   Total In:
                                                                  1,767 mL
                                                                  1,173 mL
   PO:
   TF:
                                                                    840 mL
                                                                    271 mL
   IVF:
                                                                    827 mL
                                                                    153 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,415 mL
                                                                    810 mL
   Urine:
                                                                  1,415 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    352 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 350 (311 - 451) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   SpO2: 92%
   ABG: 7.36/48/280/25/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 560
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Labs / Radiology
   397 K/uL
   10.3 g/dL
   171 mg/dL
   2.1 mg/dL
   25 mEq/L
   4.6 mEq/L
   122 mg/dL
   116 mEq/L
   151 mEq/L
   32.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2159-8-17**]  04:02 AM
                             [**2159-8-17**]  05:13 AM
                             [**2159-8-17**]  02:14 PM
                             [**2159-8-17**]  10:36 PM
                             [**2159-8-18**]  05:20 AM
                             [**2159-8-18**]  05:32 AM
                             [**2159-8-18**]  04:15 PM
                             [**2159-8-18**]  04:27 PM
                             [**2159-8-18**]  09:20 PM
                             [**2159-8-19**]  05:29 AM
   WBC
   7.5
   7.0
   6.9
   Hct
   24.8
   25.6
   32.2
   Plt
   421
   450
   397
   Cr
   2.7
   2.5
   2.1
   TropT
   0.34
   0.32
   0.31
   TCO2
   28
   28
   26
   27
   27
   28
   Glucose
   184
   193
   171
   Other labs: PT / PTT / INR:13.6/25.1/1.2, CK / CKMB /
   Troponin-T:26/3/0.31, ALT / AST:39/48, Alk Phos / T Bili:111/0.2,
   Amylase / Lipase:19/19, Differential-Neuts:84.5 %, Lymph:10.9 %,
   Mono:3.7 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL,
   LDH:352 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:3.9 mg/dL
   CE: CK: 29->26->26.  Trop: .34->.32->.31
   Micro:
   Viral cx [**8-17**]: neg
   miniBAL [**8-17**]: NTD
   blood cx [**8-11**] to [**8-15**]: NGTD
   BAL [**8-9**]: no bacteria, no legionella, no PCP, [**Name10 (NameIs) 10293**] [**Country 10294**].    1
   COLONY ON 1 PLATE.
   catheter tip [**8-14**]: No sig growth
   respiratory viral cx: neg, no CMV, no VZV
   lyme serology [**8-13**]: neg
   sputum cx [**8-9**]: yeasts, sparse growth. And [**Month/Year (2) **] [**Country **].
   c. diff neg x2
   urine cx [**8-14**]: neg
   urine legionella antigen: neg
   adenovirus PCR ([**8-11**]): neg
   anaplasma, babesia serologies: pending
   beta-glucan and galactomannan: pending
   anti-GBM: pending
   scleroderma pending
   anti-RNA polymerase I/III
   tularesnsis serology pending
   [**Doctor First Name **] centromere pending
   Imaging:
   CXR ([**8-19**]): persistent bilat infiltrates, possibly worse bilaterally.
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and asthma who came with subjective fevers, sore throat, and
   now in respiratory failure.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad, includes viral syndrome/ARDS, AIP, interstitial
   pneumonitis. She describes a prodrome lasting a few weeks, however
   relatively acute onset of shortness of breath today on day of
   presentation. Her chest x-ray is not completely consistent with a
   picture of just CHF, and she did not respond to lasix as expected if
   this was the whole story.  Her fevers are more suggestive of an
   infectious process; given her chest x-ray an atypical process such as
   legionella or mycoplasma would be higher on the differential. Viral
   process (such as varicella, CMV) would also be possibilties. She has no
   known risk factors for PCP.  [**Name10 (NameIs) **] considerations would be
   rheumatologic processes (vasculitis, pulmonary-renal syndromes, however
   renal function is WNL), institial lung diseases such as UIP/AIP/DIP,
   hypersensitivity pneumonitis, bronchoalveolar carcinoma. No hemoptysis
   to suggest DAH, and suctions from ETT and bronchoscopy showed no rustic
   blood color or alveolar bleeding.  Patient meets the criteria for ARDS
   as it is acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR. In terms of the precipitate of ARDS, could be
   aspiration pneumonitis, viral or atypical pneumonia, or inhalation in
   the environment. No evidence of pancreatitis, sepsis, no h/o
   transfusion, trauma, drown, or burn. No h/o drug overdose either.
   - continue on PC (PEEP of 10 and driving pressure of 18), weaned FiO2
   to 50% will recheck ABG
   - continue methadone 20mg Q4h, and continue to wean off fentanyl and
   midazolam
   - completed 3 day course of high-dose steroids salumederol (1g daily x
   3days) for possible rheumatologic/vasculitis etiology
   - started Prednisone taper yesterday
   - d/c azithro today as a 5d course is finished
   - changed [**Last Name (un) 614**] to 500 mg q12h (day 1: [**8-13**]) now that renal function
   improved
   - continue tamiflu; if viral culture negative for 72 hours, plan to
   discontinue
   - f/u extensive pendng cultures, scleroderma studies
   - no antifungal per ID
   - opted against lung bx for now as risk too high with thorocotomy
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. GI sources are also possible but pt had no GI complaint
   on admission. Pt has no skin breakdown to explain this sepsis.
   - pt is afebrile, normal WBC, off pressors since [**8-16**]
   - continue [**Last Name (un) 614**] and tamiflu as per ID
   - continue to follow all cultures, c. diff neg x2
   - lactate normal
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Acute renal failure: Cr continues to trend down.  FeNa 0.36, Urine
   Na 18, consistent with pre-renal etiology. Per renal, pt has muddy
   brown casts, most likely ATN in the setting of hypotension. In the
   setting of ARDS with bilateral infiltrate, question patient has
   pulmonary
renal syndrome/vasculitis. Anemia is supportive of this
   possible diagnosis. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is also supportive, however ANCA
   neg.
   - Cr trending down, continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs (no dialysis since Cr is improving)
 d/c AlOH
   .
   #) Elevated LFTs: in the setting of acute illness, concerning for
   acalculous cholecystitis.
   - RUQ US only showed gallbladder sludge without evidence of
   cholecystitis
   - trend LFTs daily
   .
   #) Hyperphosphatemia: Most likely [**12-25**] ARF.  Improved.
   - d/c aluminum hydroxide per renal rec
   - continue to trend
   .
   # hypernatremia: provide 250cc free water bolus q6h.  Obtain urine
   lytes today.
   .
   #) Anemia: Hct stable, s/p 2 units prbcs yesterday. differential broad
   and includes anemia of chronic disease, iron deficiency, etc. iron
   studies are consistent with anemia of chronic disease or anemia of
   inflammation, B12 and folate normal. No hemoptysis to suggest DAH.
   - Transfusion threshold <21 or evidence of active bleeding
   .
   # Mental Status: currently sedated.
   - wean down fentanyl and midazolam
   - per pharmacy, continue methadone 20mg Q4h
   - can re-assess neuro status when pt is less sedated
   .
   # decreased bowel movements:
   - add lactulose today PR
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-18**] 03:10 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-19 08:23:00 Physician Attending Progress Note
TITLE: MICU Attending Progress Note
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    70 yo female with discoid lupus, HL, LBP admitted with ARDS
   24 Hour Events:
 EKG - At [**2159-8-18**] 08:46 PM
   Prednisone taper
   Desat to 80
s overnight- this was later found to be due to broken
   oxygen sensor, though before this was discovered she got an ECG showing
   TWI in V3-V4 .
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2159-8-18**] 12:00 AM
   Azithromycin - [**2159-8-18**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-8-18**] 08:45 PM
   Other medications:
   SSI, chrlorhexidine, Prednisone, docusate, methadone, Tamiflu
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-19**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 63 (59 - 71) bpm
   BP: 143/62(94) {125/52(78) - 158/69(101)} mmHg
   RR: 28 (12 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.3 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  1,767 mL
                                                                  1,179 mL
   PO:
   TF:
                                                                    840 mL
                                                                    271 mL
   IVF:
                                                                    827 mL
                                                                    159 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,415 mL
                                                                    810 mL
   Urine:
                                                                  1,415 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    352 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 336 (311 - 451) mL
   RR (Set): 30
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 92%
   ABG: 7.36/48/280/25/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 560
   Physical Examination
   HEENT: +OGT, ETT
   Lungs: scattered rhonchi
   CV: RRR, no M/G/R
   Abd: soft  nontender +bs
   Peripheral Vascular: (2+DP/radial pulses;
   Ext: bilateral boots
   Skin:  no rashes
   Neurologic: Sedated, not responsive, not moving
   Labs / Radiology
   10.3 g/dL
   397 K/uL
   171 mg/dL
   2.1 mg/dL
   25 mEq/L
   4.6 mEq/L
   122 mg/dL
   116 mEq/L
   151 mEq/L
   32.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2159-8-17**]  04:02 AM
                             [**2159-8-17**]  05:13 AM
                             [**2159-8-17**]  02:14 PM
                             [**2159-8-17**]  10:36 PM
                             [**2159-8-18**]  05:20 AM
                             [**2159-8-18**]  05:32 AM
                             [**2159-8-18**]  04:15 PM
                             [**2159-8-18**]  04:27 PM
                             [**2159-8-18**]  09:20 PM
                             [**2159-8-19**]  05:29 AM
   WBC
   7.5
   7.0
   6.9
   Hct
   24.8
   25.6
   32.2
   Plt
   421
   450
   397
   Cr
   2.7
   2.5
   2.1
   TropT
   0.34
   0.32
   0.31
   TCO2
   28
   28
   26
   27
   27
   28
   Glucose
   184
   193
   171
   Other labs: PT / PTT / INR:13.6/25.1/1.2, CK / CKMB /
   Troponin-T:26/3/0.31, ALT / AST:39/48, Alk Phos / T Bili:111/0.2,
   Amylase / Lipase:19/19, Differential-Neuts:84.5 %, Lymph:10.9 %,
   Mono:3.7 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL,
   LDH:352 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:3.9 mg/dL
   adeno virus PCR, urine legionella negative
   Micro: no new data
   CXR:  continued diffuse bilateral infiltrates: unchanged vs slightly
   worse
   Assessment and Plan
 HYPERGLYCEMIA
 HYPERPHOSPHATEMIA (HIGH PHOSPHATE)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   70 yo female with acute respiratory failure- specific etiology unknown,
   but differential includes viral syndrome/ARDS, AIP/interstitial
   pneumnitis
   1)Respiratory Failure-
   Remain on PC ventilation, FiO2 60%
   Vent requirements too high for pt to tolerate waking up or SBT
   No meaningful change on current abx and after a 3 day course of high
   dose steroids
   Continuing prednisone taper
   Merepenem dosing adjusted due to  improving renal function
   Still pending: anti GBM, [**Doctor First Name **], centromer, tularemeia, Scl70, beta
   glucan, anaplasma, babesiosis
   2Presumed Sepsis-
   -Meropenem/Azithro/Tamiflu
   - Now normotensive with no further pressor requirements
   3)Renal Failure-
   attributed to hypotension/ATN- renal function returning with decreased
   Cr
   4. AMS: difficult to evaluate further due to pt's high sedation needs
   as she becomes quickly dyssynchrnous with vent
   *On methadone 40 Q4h/fentanyl 150 mcg, midazolam
   *Attempt 25% reduction in fentanyl/midzaolam infusions if feasible
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Hep SQ, boots
   Stress ulcer: PPI
   VAP: mouth care, elevate HOB. No wake up trial due to high pressor
   needs
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2159-08-20 06:37:00 Physician Resident Progress Note
TITLE:
   CC: Acute Respiratory Failure
   24 Hour Events:
   -          No episodes of acute desaturation
   -          Methadone started at 20 mg IV q 4 hours
   -          Fentanyl decreased from 150 to 125mcg/hr and midazolam
   decreased from 5 to 4 mg/hr
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2159-8-18**] 08:00 AM
   Meropenem - [**2159-8-19**] 07:49 PM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-19**] 08:43 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-19**] 04:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-20**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
F) (0000)
   Tcurrent: 37.2
C (98.9
   HR: 67 (58 - 70) bpm
   BP: 149/68(99) {141/61(92) - 166/73(109)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.3 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 2 (2 - 15)mmHg
   Total In:
                                                                  3,283 mL
                                                                    598 mL
   PO:
   TF:
                                                                    841 mL
                                                                    225 mL
   IVF:
                                                                    802 mL
                                                                    124 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,910 mL
                                                                    760 mL
   Urine:
                                                                  2,910 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 384 (336 - 706) mL
   PS : 12 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.41/47/89.[**Numeric Identifier 126**]/28/3
   Ve: 9.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   HEENT: Right Pupil constricts to light; left pupil with cataract and
   does not constrict to light
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. Mild
   bilateral edema present
   Labs / Radiology
   431 K/uL
   10.7 g/dL
   150 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   105 mg/dL
   119 mEq/L
   154 mEq/L
   32.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2159-8-18**]  05:32 AM
                             [**2159-8-18**]  04:15 PM
                             [**2159-8-18**]  04:27 PM
                             [**2159-8-18**]  09:20 PM
                             [**2159-8-19**]  05:29 AM
                             [**2159-8-19**]  08:29 AM
                             [**2159-8-19**]  04:31 PM
                             [**2159-8-19**]  04:49 PM
                             [**2159-8-20**]  04:33 AM
                             [**2159-8-20**]  04:59 AM
   WBC
   7.0
   6.9
   12.0
   Hct
   25.6
   32.2
   32.4
   Plt
   [**Telephone/Fax (3) 10335**]
   Cr
   2.5
   2.1
   0.6
   1.5
   TropT
   0.34
   0.32
   0.31
   TCO2
   27
   28
   27
   30
   31
   Glucose
   193
   171
   85
   150
   Other labs: PT / PTT / INR:13.5/26.2/1.2, CK / CKMB /
   Troponin-T:26/3/0.31, ALT / AST:40/33, Alk Phos / T Bili:95/0.2,
   Amylase / Lipase:19/19, Differential-Neuts:84.5 %, Lymph:10.9 %,
   Mono:3.7 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL,
   LDH:314 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
[**2159-8-17**] 11:30 am Rapid Respiratory Viral Screen & Culture
      BRONCHIAL LAVAGE.
                            **FINAL REPORT [**2159-8-19**]**
   Respiratory Viral Culture (Final [**2159-8-19**]):
      No respiratory viruses isolated.
      Culture screened for Adenovirus, Influenza A & B, Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus..
      Detection of viruses other than those listed above will only be
      performed on specific request. Please call Virology at [**Telephone/Fax (1) 10336**]
      within 1 week if additional testing is needed.
   Respiratory Viral Antigen Screen (Final [**2159-8-17**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
      and RSV by immunofluorescence.
      Refer to respiratory viral culture for further information.
[**2159-8-17**] 12:45 pm Mini-BAL
   GRAM STAIN (Final [**2159-8-17**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2159-8-19**]):    NO GROWTH, <1000 CFU/ml.
   FUNGAL CULTURE (Preliminary):
      YEAST.
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female with history of hypertension,
   glaucoma, and asthma who came with subjective fevers, sore throat, and
   now in respiratory failure.
   .
   #) ARDS/hypercarbic respiratory failure: Pt is now s/p intubation and
   bronchoscopy. Differential for patient's respiratory distress at this
   time remains broad, includes viral syndrome/ARDS, AIP, interstitial
   pneumonitis. Her fevers are more suggestive of an infectious process;
   given her chest x-ray an atypical process such as legionella or
   mycoplasma would be higher on the differential. Viral process (such as
   varicella, CMV) would also be possibilties. She has no known risk
   factors for PCP.  [**Name10 (NameIs) **] considerations would be rheumatologic processes
   (vasculitis, pulmonary-renal syndromes, however renal function is WNL),
   institial lung diseases such as UIP/AIP/DIP, hypersensitivity
   pneumonitis, bronchoalveolar carcinoma. No hemoptysis to suggest DAH,
   and suctions from ETT and bronchoscopy showed no rustic blood color or
   alveolar bleeding.
    Patient meets the criteria for ARDS as it is acute, no evidence of
   CHF, PaO2/FiO2 <200 and pt has bilateral infiltrates on CXR. Given her
   unresponsiveness to steroids, AIP is a high possibility at this time.
   In terms of the precipitate of ARDS, could be aspiration pneumonitis,
   viral or atypical pneumonia, or inhalation in the environment. No
   evidence of pancreatitis, sepsis, no h/o transfusion, trauma, drown, or
   burn.
   - continue on PC (PEEP of 10 and driving pressure of 12), weaned FiO2
   to 50%, ABG shows compensated respiratory acidosis; continue high RR of
   30; Decrease PEEP to 8 today
   - continue methadone 20mg Q4h, Start vailium 5 mg IV q 6 hours and and
   attempt to wean off fentanyl and midazolam as tolerated
   - completed 3 day course of high-dose steroids salumederol (1g daily x
   3days) for possible rheumatologic/vasculitis etiology
   - started Prednisone taper [**8-18**]
   - d/c azithro [**8-19**] as a 5d course is finished
   - changed [**Last Name (un) 614**] to 500 mg q12h (day 1: [**8-13**]) now that renal function
   improved; d/c per ID recs
   - Stop tamiflu as  viral culture had been negative for 72 hours
   - f/u extensive pending cultures, scleroderma studies
   - no antifungal per ID
   - opted against lung bx for now as risk too high with thorocotomy
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. Concening as white count elevated GI sources are also
   possible but pt had no GI complaint on admission. Pt has no skin
   breakdown to explain this sepsis.
   - pt with low grade temps to 100, Elevated WBC today to 12, off
   pressors since [**8-16**]
   - continue [**Last Name (un) 614**] and tamiflu as per ID
   - continue to follow all cultures, c. diff neg x2; #3 pending
   - lactate normal
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Hypernatremia: Free water deficit: 3.875 L provide
   -   250cc free water bolus q3h and
   -  Start 100 cc/hr of D5W for 1000 mL
   -  Obtain urine lytes today.
   #) Acute renal failure: Improving Cr continues to trend down 1.4 today
   (baseline 1.0).  FeNa 0.36, Urine Na 18, consistent with pre-renal
   etiology. Per renal, pt has muddy brown casts, most likely ATN in the
   setting of hypotension. In the setting of ARDS with bilateral
   infiltrate, question patient has pulmonary
renal syndrome/vasculitis.
   Anemia is supportive of this possible diagnosis. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10093**] is
   also supportive, however ANCA neg.
   - Cr trending down, continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs (no dialysis since Cr is improving)
 d/c AlOH
   .
   #) h/o Elevated LFTs: in the setting of acute illness, concerning for
   acalculous cholecystitis, now resolved
   - RUQ US only showed gallbladder sludge without evidence of
   cholecystitis
   - trend LFTs daily
   .
   #) Hyperphosphatemia: Most likely [**12-25**] ARF.  Improved.
   - d/c aluminum hydroxide per renal rec
   - continue to trend
   .
   #) Anemia: Hct stable, s/p 2 units prbcs [**8-18**]. Differential broad and
   includes anemia of chronic disease, iron deficiency, etc. iron studies
   are consistent with anemia of chronic disease or anemia of
   inflammation, B12 and folate normal. No hemoptysis to suggest DAH.
   - Transfusion threshold <21 or evidence of active bleeding
   .
   # Mental Status: currently sedated.
   - wean down fentanyl and midazolam
   - per pharmacy, continue methadone 20mg Q4h
   - Start diazepam 5 mg IV q 6 hours
   - can re-assess neuro status when pt is less sedated
   .
   # Decreased bowel movements: Concern for narcotic induced ileus
   -  Add lactulose today PO standing
   -  Consider PO Narcan and/or another lactulose enema if no improvement
   with standing lactulose
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-18**] 03:10 AM 35 mL/hour
   Glycemic Control:
   Lines:  Will have family meeting to discuss trach/peg
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-21 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - weaning down sedation slowly; currently at 125 and 4; diazepam added
   yesterday and continuing methadone.
   - PEEP slowly weaned down from 10->8 ABG: 7.46/37/86/27
   - ARDS does not appear to be steroid responsive; tapering prednisone
   - cont on meropenem
   - stopped tamiflu yesterday as cx Neg for 3 days
     - Renal recs:  D5W at 100cc/hr x1L
   - passed significant BM in evening; continues on standing lactulose
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2159-8-18**] 08:00 AM
   Meropenem - [**2159-8-20**] 09:02 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-8-20**] 09:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-21**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 66 (58 - 93) bpm
   BP: 158/68(102) {149/63(95) - 167/82(117)} mmHg
   RR: 29 (23 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.4 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: -3 (-3 - 11)mmHg
   Total In:
                                                                  3,719 mL
                                                                  1,088 mL
   PO:
   TF:
                                                                    844 mL
                                                                    217 mL
   IVF:
                                                                  1,374 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                  1,265 mL
   Urine:
                                                                  3,160 mL
                                                                  1,265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 510 (351 - 523) mL
   PS : 12 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   SpO2: 93%
   ABG: 7.45/48/80.[**Numeric Identifier 176**]//7
   Ve: 10.4 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   HEENT: Right Pupil constricts to light; left pupil with cataract and
   does not constrict to light
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. 2+
   bilateral edema present
   Labs / Radiology
   394 K/uL
   10.5 g/dL
   120 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.3 mEq/L
   73 mg/dL
   113 mEq/L
   153 mEq/L
   31.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2159-8-19**]  08:29 AM
                             [**2159-8-19**]  04:31 PM
                             [**2159-8-19**]  04:49 PM
                             [**2159-8-20**]  04:33 AM
                             [**2159-8-20**]  04:59 AM
                             [**2159-8-20**]  03:21 PM
                             [**2159-8-20**]  05:34 PM
                             [**2159-8-20**]  06:52 PM
                             [**2159-8-21**]  05:18 AM
                             [**2159-8-21**]  05:33 AM
   WBC
   12.0
   16.5
   Hct
   32.4
   31.1
   Plt
   431
   394
   Cr
   1.8
   1.5
   TCO2
   27
   30
   31
   31
   27
   33
   34
   Na
   153
   154
   153
   Other labs: PT / PTT / INR:13.5/26.2/1.2, ALT / AST:64/42,
   Differential-Neuts:84.5 %, Lymph:10.9 %, Mono:3.7 %, Eos:0.8, LDH:314
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Other Urine Chemistry:
   UreaN:838
   Na:101
   Osmolal:547
   Blood Cultures 9/23: NGTD and Mini BAL cultures from [**8-17**]: Preliminary:
   Fungal: Yeast, Gram stain and culture no growth
   B-Glucan: < 31 Negative   ; ANTI-GMB: Negative
   Adenovirus: Negative
   Ehrlichia IGG/IGM,  Anti-RNA pol I/III AB: Aspergillus galactomanin,
   Babesia; FRANCISELLA TULARENSIS; Scleroderma; All pending
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female who came with subjective fevers,
   sore throat, and now in respiratory failure. ARDS of unclear etiology,
   nonresponsive to steroids and overall minimal change from day prior.
   .
   #) ARDS/hypercarbic respiratory failure Intubated on PCV/PSV.
   Differential for patient's respiratory distress at this time remains
   broad, includes viral syndrome/ARDS, AIP, interstitial pneumonitis. Her
   fevers are more suggestive of an infectious process;. Viral process
   (such as varicella, CMV) would also be possibilties. Other
   considerations would be rheumatologic processes (vasculitis,
   pulmonary-renal syndromes, however renal function is WNL), institial
   lung diseases such as UIP/AIP/DIP, hypersensitivity pneumonitis,
   bronchoalveolar carcinoma. Patient meets the criteria for ARDS as it is
   acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR.
   - continue on PC; FiO2 to 50%, ABG; continue to taper vent settings as
   tolerated.
   - continue methadone 20mg Q4h, Valium 5 mg IV q 6 hours and and attempt
   to wean off fentanyl and midazolam as tolerated
   - completed 3 day course of high-dose steroids salumederol (1g daily x
   3days) for possible rheumatologic/vasculitis etiology
   - Continue Prednisone taper (started [**8-18**])
   - d/c azithro [**8-19**] as a 5d course is finished
   - changed [**Last Name (un) 614**] to 500 mg q12h (day 1: [**8-13**]) now that renal function
   improved
   - Stop tamiflu as  viral culture had been negative for 72 hours
   - f/u extensive pending cultures, scleroderma studies
   - no antifungal per ID
   - opted against lung bx for now as risk too high with thorocotomy
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential. Concening as white count elevated GI sources are also
   possible but pt had no GI complaint on admission. Pt has no skin
   breakdown to explain this sepsis.
   - pt with low grade temps to 100,  WBC continuing to climb today to
   16.5, off pressors since [**8-16**]
   - continue [**Last Name (un) 614**] as per ID
   - continue to follow all cultures, c. diff neg x2; #3 pending
   - lactate normal
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Hypernatremia: Free water deficit:  4.1 Liters after 250 cc free
   water boluses q 3 hours and 100 cc/hr of D5W for 1000 mL
   -   300 cc free water bolus q3h per renal
   -   100 cc/hr of D5W for 24 hours per renal
   -  Change all medications to D5W medium as can be accomplished; spoke
   with Rx and will make adjustments as needed
   #) Acute renal failure: Improved Cr continues to trend down 0.9 today
   (baseline 1.0).  FeNa 0.36, Urine Na 18, consistent with pre-renal
   etiology and with  muddy brown casts, ATN in the setting of
   hypotension.
   - Cr at baseline and BUN trending down, continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - f/u anti-GBM
   - f/u renal recs
   .
   #) Elevated LFTs: slowly increasing; in the setting of acute illness,
   concerning for acalculous cholecystitis,
   - RUQ US only showed gallbladder sludge without evidence of
   cholecystitis
   - trend LFTs daily
   ..
   #) Anemia: Hct stable, s/p 2 units prbcs [**8-18**]. Iron studies are
   consistent with anemia of chronic disease or anemia of inflammation,
   B12 and folate normal.
   - Transfusion threshold <21 or evidence of active bleeding
   .
   # Mental Status: currently sedated.
   - wean down fentanyl and midazolam
   - per pharmacy, continue methadone 20mg Q4h
   - Continue diazepam 5 mg IV q 6 hours
   - can re-assess neuro status when pt is less sedated
   .
   # Decreased bowel movements: Concern for narcotic induced ileus;
   although standing lactulose has generated large bowel movements
   -  Change lactulose today PO to PRN
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-18**] 03:10 AM 35 mL/hour
   Glycemic Control:
   Lines - Family meeting scheduled for 6pm [**8-21**]--> to discuss whether to
   move to trach (pt has been intubated x2wks); and will also consider
   PICC today as patient may not need CVL any longer
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: ICU for now

2159-08-21 13:16:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, ARDS, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient not tolerating decrease in sedation - dys-synchronous with
   ventilator.
   PEEP decreased from 10 to 8.
   Tamiful stopped. Continues on meropenem.
   Free water replacement started yesterday.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2159-8-21**] 07:50 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-21**] 07:38 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-21**] 07:38 AM
   Diazepam (Valium) - [**2159-8-21**] 08:00 AM
   Other medications:
   prednisone, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-21**] 01:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.6
   HR: 60 (58 - 93) bpm
   BP: 141/60(89) {135/58(86) - 167/82(117)} mmHg
   RR: 30 (23 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.4 kg (admission): 77.5 kg
   Height: 62 Inch
   CVP: 3 (-3 - 8)mmHg
   Total In:
                                                                  3,719 mL
                                                                  2,756 mL
   PO:
   TF:
                                                                    844 mL
                                                                    452 mL
   IVF:
                                                                  1,374 mL
                                                                  1,495 mL
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                  2,905 mL
   Urine:
                                                                  3,160 mL
                                                                  2,905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 588 (223 - 588) mL
   PS : 12 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   SpO2: 94%
   ABG: 7.45/48/80.[**Numeric Identifier 176**]/32/7
   Ve: 9.7 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema,
   Cataract on left
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral lung fields, No(t) Crackles : ,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   394 K/uL
   120 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.3 mEq/L
   73 mg/dL
   113 mEq/L
   153 mEq/L
   31.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2159-8-19**]  08:29 AM
                             [**2159-8-19**]  04:31 PM
                             [**2159-8-19**]  04:49 PM
                             [**2159-8-20**]  04:33 AM
                             [**2159-8-20**]  04:59 AM
                             [**2159-8-20**]  03:21 PM
                             [**2159-8-20**]  05:34 PM
                             [**2159-8-20**]  06:52 PM
                             [**2159-8-21**]  05:18 AM
                             [**2159-8-21**]  05:33 AM
   WBC
   12.0
   16.5
   Hct
   32.4
   31.1
   Plt
   431
   394
   Cr
   1.8
   1.5
   0.9
   TCO2
   27
   30
   31
   31
   27
   33
   34
   Glucose
   150
   150
   120
   Other labs: PT / PTT / INR:13.5/26.2/1.2, CK / CKMB /
   Troponin-T:26/3/0.31, ALT / AST:64/42, Alk Phos / T Bili:79/0.4,
   Amylase / Lipase:19/19, Differential-Neuts:84.5 %, Lymph:10.9 %,
   Mono:3.7 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL,
   LDH:323 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: bilateral, patchy alveolar infiltrates
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPERGLYCEMIA
 HYPERPHOSPHATEMIA (HIGH PHOSPHATE)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   ANEMIA
   =======================
   On work rounds, we reduced PEEP to 5. Patient tolerating for now;
   continue to monitor O2 sats. If she tolerates PEEP=5, we should
   progress more rapidly with tapering sedation. Patient tolerating PSV
   now although tidal volumes are a bit small (330 ml) on sedation with
   PSV 12. Complete course of antibiotics.
   Serum Na still elevated. Urine volumes are high; need to incorporate
   that into replacement of maintenance losses; Urine Na was 110; thus,
   for each liter of urine, we need to replace [**11-25**] liter of free water.
   Creat improving.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-20**] 11:53 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2159-08-22 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pan culture for temp of 100.4
   - On PC: PEEP 5, FiO2 50 and decreased RR to 20 b/c pH was 7.52.
   changed to AC; became dysynchronous on this and desating into the upper
   80s. Changed back to PC, increased peep, fio2 to 60. slowly sats came
   back up and adjusted settings to peep 5, fio2 50. She has been fine
   since.
   - Family would like to extubate patient tomorrow around 8 AM.
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2159-8-21**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-8-21**] 07:38 AM
   Midazolam (Versed) - [**2159-8-21**] 04:21 PM
   Heparin Sodium (Prophylaxis) - [**2159-8-21**] 10:00 PM
   Diazepam (Valium) - [**2159-8-22**] 02:00 AM
   Methadone Hydrochloride - [**2159-8-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-22**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 67 (54 - 86) bpm
   BP: 152/75(103) {130/57(83) - 163/83(112)} mmHg
   RR: 24 (22 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.4 kg (admission): 77.5 kg
   Height: 62 Inch
    CVP: 3 (3 - 3)mmHg
   Total In:
                                                                  4,485 mL
                                                                    788 mL
   PO:
   TF:
                                                                    840 mL
                                                                     79 mL
   IVF:
                                                                  2,835 mL
                                                                    709 mL
   Blood products:
   Total out:
                                                                  4,945 mL
                                                                    880 mL
   Urine:
                                                                  4,945 mL
                                                                    840 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 588 (223 - 588) mL
   PS : 14 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 23 cmH2O
   Plateau: 23 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.47/41/66/31/5
   Ve: 8.5 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General: intubated, sedated, not following commands
   Neck: Supple, JVP difficult to assess but does not appear elevated, no
   LAD
   HEENT: Right Pupil constricts to light; left pupil with cataract and
   does not constrict to light
   Lungs: scattered ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. 2+
   bilateral edema present
   Labs / Radiology
   378 K/uL
   10.6 g/dL
   139 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   47 mg/dL
   105 mEq/L
   143 mEq/L
   32.4 %
   19.5 K/uL
        [image002.jpg]
                             [**2159-8-20**]  03:21 PM
                             [**2159-8-20**]  05:34 PM
                             [**2159-8-20**]  06:52 PM
                             [**2159-8-21**]  05:18 AM
                             [**2159-8-21**]  05:33 AM
                             [**2159-8-21**]  03:05 PM
                             [**2159-8-21**]  03:32 PM
                             [**2159-8-21**]  04:43 PM
                             [**2159-8-22**]  03:54 AM
                             [**2159-8-22**]  04:15 AM
   WBC
   16.5
   19.5
   Hct
   31.1
   32.4
   Plt
   394
   378
   Cr
   0.9
   0.8
   0.7
   TCO2
   31
   27
   33
   34
   34
   34
   31
   Glucose
   120
   194
   139
   Other labs: PT / PTT / INR:13.5/26.2/1.2, CK / CKMB /
   Troponin-T:26/3/0.31, ALT / AST:64/42, Alk Phos / T Bili:79/0.4,
   Amylase / Lipase:19/19, Differential-Neuts:84.5 %, Lymph:10.9 %,
   Mono:3.7 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL,
   LDH:323 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 10054**] is a 70 year old female who came with subjective fevers,
   sore throat, and now in respiratory failure. ARDS of unclear etiology,
   nonresponsive to steroids and overall minimal change from day prior.
   .
   #Goals of Care: After family meeting, it was decided to extubate
   patient as patient
s wishes were to not have a trach.
   -          d/c meds
   -          start morphine
   -          contact social work
   #) ARDS/hypercarbic respiratory failure Intubated on PCV/PSV.
   Differential for patient's respiratory distress at this time remains
   broad, includes viral syndrome/ARDS, AIP, interstitial pneumonitis. Her
   fevers are more suggestive of an infectious process;. Viral process
   (such as varicella, CMV) would also be possibilties. Other
   considerations would be rheumatologic processes (vasculitis,
   pulmonary-renal syndromes, however renal function is WNL), institial
   lung diseases such as UIP/AIP/DIP, hypersensitivity pneumonitis,
   bronchoalveolar carcinoma. Patient meets the criteria for ARDS as it is
   acute, no evidence of CHF, PaO2/FiO2 <200 and pt has bilateral
   infiltrates on CXR.
   - continue on PC; FiO2 to 50%, ABG; continue to taper vent settings as
   tolerated.
   - continue methadone 20mg Q4h, Valium 5 mg IV q 6 hours and and attempt
   to wean off fentanyl and midazolam as tolerated
   - completed 3 day course of high-dose steroids salumederol (1g daily x
   3days) for possible rheumatologic/vasculitis etiology
   - Continue Prednisone taper (started [**8-18**])
   - d/c azithro [**8-19**] as a 5d course is finished
   - changed [**Last Name (un) 614**] to 500 mg q12h (day 1: [**8-13**]) now that renal function
   improved stop [**8-23**]^st .
   - Stop tamiflu as  viral culture had been negative for 72 hours
   - f/u extensive pending cultures, scleroderma studies
   - no antifungal per ID
   - opted against lung bx for now as risk too high with thorocotomy
   .
   #) Sepsis: Patient meets the criteria for sepsis. In terms of the
   sources of infection, pulmonary infection is certainly high on the
   differential.
   - pt with low grade temps to 100,  WBC continuing to climb today to
   16.5, off pressors since [**8-16**]
   - continue [**Last Name (un) 614**] as per ID and stop [**8-23**].
   - continue to follow all cultures, c. diff neg x2
   - lactate normal
   - dental rec tooth extractionas outpt, pt unable to have panorex
   currently
   - maintain MAP>65, CVP>[**9-3**], UOP>30cc/hr and ScvO2 > 70%
   .
   #) Hypernatremia: Free water deficit:  4.1 Liters after 250 cc free
   water boluses q 3 hours and 100 cc/hr of D5W for 1000 mL
   -   500 cc free water bolus q3h per renal
   -   100 cc/hr of D5W for 24 hours per renal
   -  Change all medications to D5W medium as can be accomplished; spoke
   with Rx and will make adjustments as needed
   #) Acute renal failure: Improved Cr continues to trend down 0.9 today
   (baseline 1.0).  FeNa 0.36, Urine Na 18, consistent with pre-renal
   etiology and with  muddy brown casts, ATN in the setting of
   hypotension.
   - Cr at baseline and BUN trending down, continue to monitor
   - maintain renal perfusion by MAP>65, CVP>[**9-3**], UOP>30cc/hr
   - anti-GBM negative
   - f/u renal recs
   .
   #) Elevated LFTs: slowly increasing; in the setting of acute illness,
   concerning for acalculous cholecystitis,
   - RUQ US only showed gallbladder sludge without evidence of
   cholecystitis
   - trend LFTs daily
   ..
   #) Anemia: Hct stable, s/p 2 units prbcs [**8-18**]. Iron studies are
   consistent with anemia of chronic disease or anemia of inflammation,
   B12 and folate normal.
   - Transfusion threshold <21 or evidence of active bleeding
   .
   # Mental Status: currently sedated.
   - wean down fentanyl and midazolam
   - per pharmacy, continue methadone 20mg Q4h
   - Continue diazepam 5 mg IV q 6 hours
   - can re-assess neuro status when pt is less sedated
   .
   # Decreased bowel movements: Concern for narcotic induced ileus;
   although standing lactulose has generated large bowel movements
   -          Change lactulose today PO to PRN
   -          Send off C.diff
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2159-8-18**] 03:10 AM 35 mL/hour
   Glycemic Control:
   Lines - (pt has been intubated x2wks); and will also consider PICC
   today as patient may not need CVL any longer
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient and daughter [**Name (NI) **] [**Name (NI) 10054**] ([**Telephone/Fax (1) 10057**]
   Code status: Full (discussed with patient)
   Disposition: Extubate today and stay in ICU for now

2159-08-22 09:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, ARDS, pneumonia, hypernatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient remains on ventilator. PEEP at 5 with FIO2 0.5.  Free water
   repleted with improvement in serum Na.
   Family meeting yesterday. Family states patient would never want a
   trach and they are pushing for extubation and comfort measures.
   24 Hour Events:
   Allergies:
   Zocor (Oral) (Simvastatin)
   Abdominal pain;
   Niacin
   Unknown;
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2159-8-21**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2159-8-21**] 04:21 PM
   Diazepam (Valium) - [**2159-8-22**] 07:39 AM
   Methadone Hydrochloride - [**2159-8-22**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2159-8-22**] 07:40 AM
   Other medications:
   Insulin, chlorhexidine, protonix, sc heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-8-22**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.2
   HR: 73 (54 - 85) bpm
   BP: 164/76(111) {130/57(83) - 164/83(112)} mmHg
   RR: 23 (21 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.4 kg (admission): 77.5 kg
   Height: 62 Inch
             Total In:
                                                                  4,485 mL
                                                                  1,110 mL
   PO:
             TF:
                                                                    840 mL
                                                                     79 mL
   IVF:
                                                                  2,835 mL
                                                                  1,031 mL
   Blood products:
   Total out:
                                                                  4,945 mL
                                                                  1,320 mL
   Urine:
                                                                  4,945 mL
                                                                  1,280 mL
   NG:
   40 mL
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 588 (588 - 588) mL
   PS : 14 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 21.6 cmH2O/mL
   SpO2: 91%
   ABG: 7.47/41/66/31/5
   Ve: 12.2 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Left corneal opacity
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   378 K/uL
   139 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   47 mg/dL
   105 mEq/L
   143 mEq/L
   32.4 %
   19.5 K/uL
        [image002.jpg]
                             [**2159-8-20**]  03:21 PM
                             [**2159-8-20**]  05:34 PM
                             [**2159-8-20**]  06:52 PM
                             [**2159-8-21**]  05:18 AM
                             [**2159-8-21**]  05:33 AM
                             [**2159-8-21**]  03:05 PM
                             [**2159-8-21**]  03:32 PM
                             [**2159-8-21**]  04:43 PM
                             [**2159-8-22**]  03:54 AM
                             [**2159-8-22**]  04:15 AM
   WBC
   16.5
   19.5
   Hct
   31.1
   32.4
   Plt
   394
   378
   Cr
   0.9
   0.8
   0.7
   TCO2
   31
   27
   33
   34
   34
   34
   31
   Glucose
   120
   194
   139
   Other labs: PT / PTT / INR:13.5/26.2/1.2, CK / CKMB /
   Troponin-T:26/3/0.31, ALT / AST:64/42, Alk Phos / T Bili:79/0.4,
   Amylase / Lipase:19/19, Differential-Neuts:84.5 %, Lymph:10.9 %,
   Mono:3.7 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL,
   LDH:323 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPERGLYCEMIA
 HYPERPHOSPHATEMIA (HIGH PHOSPHATE)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY EDEMA
 CONSTIPATION (OBSTIPATION, FOS)
   =================================
   Marginal improvement in respiratory status with ability to tolerate
   lower PEEP, but family has decided that since trach is imminent, they
   would prefer to shift priorities to comfort measures. After family
   arrives, will extubate. Social work to be notified.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2159-8-9**] 02:13 AM
   Multi Lumen - [**2159-8-14**] 01:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes